2123-12-29 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Seen by cardiology with recommendation to continue heparin gtt and
   integrillin gtt
   - A-line placed
   - Transfused 1U PRBC for hematocrit < 30 with lasix 40 mg IV
   - Changed ventilator settings to PS [**10-29**]
   - Methadone 20 mg IV Q6H initiated for difficulty to sedate
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-28**] 09:00 PM
   Azithromycin - [**2123-12-28**] 09:00 PM
   Acyclovir - [**2123-12-29**] 12:00 AM
   Piperacillin - [**2123-12-29**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2123-12-28**] 11:45 PM
   Fentanyl - [**2123-12-28**] 11:45 PM
   Methadone Hydrochloride - [**2123-12-29**] 02:00 AM
   Furosemide (Lasix) - [**2123-12-29**] 03:30 AM
   Heparin Sodium - [**2123-12-29**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-29**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 89 (88 - 119) bpm
   BP: 95/61(71) {91/59(69) - 114/79(90)} mmHg
   RR: 16 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 5 (5 - 14)mmHg
   Mixed Venous O2% Sat: 78 - 78
                               Total In:
                                                                    846 mL
                                                                    942 mL
   PO:
                               TF:
   IVF:
                                                                    786 mL
                                                                    600 mL
   Blood products:
   282 mL
   Total out:
                                                                    894 mL
                                                                    947 mL
   Urine:
                                                                    894 mL
                                                                    947 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -48 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 778 (620 - 778) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 98%
   ABG: 7.40/49/112/29/4
   Ve: 12.7 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Overweight / Obese, intubated
   Eyes / Conjunctiva: PERRL, Sclera anicteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : ), Crackles at bases, increased expiratory phase, expiratory
   wheezes
   Abdominal: Soft, nontender, nondistended
   Extremities: Warm, Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Agitated, moving all extremities
   Labs / Radiology
   139 K/uL
   9.5 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   136 mEq/L
   26.0 %
   3.3 K/uL
        [image002.jpg]
                             [**2123-12-28**]  04:38 PM
                             [**2123-12-28**]  07:37 PM
                             [**2123-12-28**]  11:10 PM
                            [**2123-12-29**]  02:15 AM
                            [**2123-12-29**]  02:26 AM
   WBC
   4.4
   3.3
   Hct
   30.6
   26.0
   Plt
   147
   139
   Cr
   1.6
   1.3
   TropT
   3.33
   2.81
   TCO2
   31
   30
   31
   Glucose
   89
   145
   Other labs: PT / PTT / INR:14.0/34.3/1.2, CK / CKMB /
   Troponin-T:1171/41/2.81, ALT / AST:35/132, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:81.8 %, Lymph:13.1 %, Mono:3.4 %, Eos:1.5 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
   # Respiratory failure: Multifactorial with bronchspasm/obstruction as
   primary pathology at this time with probable infection and acute
   coronary syndrome/congestive heart failure contributing.  He has a
   long-standing history of tobacco abuse and likely COPD but no PFTs in
   our record.  His chest x-ray is unrevealing, however, he had fevers
   prior to presentation and bacterial pathogens, viral/influenza, PCP,
   [**Name10 (NameIs) **] [**Doctor First Name **] remain on the differential; he will need a CT chest for further
   evaluation when stable.  Of note, he was admitted to the MICU one year
   ago for pneumonia with Bordetella bronchisepticum.  He is maintained on
   Bactrim once a day for PCP prophylaxis and azithromycin once a week for
   [**Doctor First Name **] prophylaxis as an outpatient.  He has acute systolic congestive
   heart failure and apparent decrease in EF from 30% to 15% on OSH TTE.
   - Continue Solu-Medrol 125 mg IV Q8H and Combivent Q4H for COPD
   - Will continue broad spectrum antibiotics with vancomycin, zosyn, and
   azithromycin
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
   - Goal I/O even to -500 cc
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Acute coronary syndrome: His coronary history in the setting of ECG
   changes and a positive troponin are concerning for ACS.  Q waves on EKG
   indicate STEMI.  The value of his cardiac enzymes are unlikely to
   represent demand ischemia in the setting of acute illness.  Cardiac
   enzymes starting to trend down.
   - Cardiology following; appreciate
   - Continue home aspirin, plavix
   - Continue heparin gtt, integrillin gtt for now until further
   evaluation by cardiology
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   - Restart beta-blockade to reduce myocardial oxygen requirements once
   blood pressure allows
   - Trend cardiac enzymes and serial ECGs
   - Transfuse hematocrit < 30
   - TTE in the morning
   # Acute-on-chronic diastolic and systolic congestive heart failure: Per
   cardiology, his OSH TTE shows EF 15% from previous 30%.  He was given
   lasix at the OSH without mention of fluid balance.
   - Cardiology consult; appreciate
   - Goal I/O even for now; consider diuresis if blood pressure stable
   - Restart beta-blockade once blood pressure allows
   - Start ACEI once blood pressure allows
   # Fevers: Fever to 102 prior to presentation
 apparently afebrile at
   OSH.  Due to infection versus acute coronary syndrome.  If infection,
   most likely etiology would be pulmonary.
   - Continue vancomycin/zosyn/azithromycin for now pending cultures
   plan to discontinue at 48 hours if cultures negative
   - Mini-BAL for above
   - Urinalysis, culture
   - Blood cultures
   - Stool cultures if diarrhea
   - Consider CT chest if stable
   # Acute on chronic anemia: Baseline mid-30s
 hematocrit drop from 30
   to 26 overnight without obvious source of bleeding.  Patient on heparin
   gtt and integrillin gtt.  Chronic anemia likely related to his advanced
   HIV (marrow suppression and/or medication effect).
   - Transfused 1U PRBC overnight
   - Guaiac stools
   - Transfuse hematocrit < 30 given acute coronary syndrome
   - Consider CT abdomen to rule out RP bleed if no appropriate bump after
   transfusion
   - Monitor
   # Hypotension: Resolved.  Patient was on levophed on transfer but now
   off.
   - Monitor
   # Elevated AST: Etiology unclear; may be medication effect versus due
   to infection.  Other liver enzymes within normal limits.
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   - OMR indicates that he received the Pneumovax in [**2117**]
   # Acute on chronic renal failure: Improved.  Baseline creatinine 1.2,
   recently 1.5 in [**Month (only) 1033**].  [**Month (only) 60**] be due to poor forward flow.
   - Urine electrolytes
   - Renally dose medications
   - Monitor
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Needs CT to further evaluate compression fracture and consider
   neurosurgical evaluation
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition: Nutrition consult for tube feeds
   Glycemic Control: RISS
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2123-12-30 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure, acute coronary syndrome
   24 Hour Events:
   - Increased fentanyl sedation; on PS w PCO2s in 50s, high O2s, steady
   pH; overnight changed to 10/10 from PEEP of 5
   - drop in Hct prompted CT scan; no evidence of bleeding
   - 2 units PRBCs given over the day for target >30
   - Integrilin stopped per cards recs; they will do cath at some point
   but not yesterday
   - Some red blood seen with stool (but not clearly in it); stopped
   heparin at this point, gave the second unit PRBCs around this time;
   informed GI but did not ask for consult at this point
   - Fell behind in diuresis goals, started lasix drip as was only putting
   out moderately to lasix boluses
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-29**] 08:00 PM
   Azithromycin - [**2123-12-29**] 08:00 PM
   Acyclovir - [**2123-12-30**] 12:00 AM
   Piperacillin - [**2123-12-30**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2123-12-29**] 09:00 PM
   Midazolam (Versed) - [**2123-12-29**] 10:48 PM
   Fentanyl - [**2123-12-29**] 10:48 PM
   Furosemide (Lasix) - [**2123-12-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-30**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 86 (80 - 93) bpm
   BP: 99/64(74) {70/59(52) - 116/76(88)} mmHg
   RR: 6 (6 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (12 - 354)mmHg
   Total In:
                                                                  3,340 mL
                                                                    926 mL
   PO:
   TF:
   IVF:
                                                                  2,103 mL
                                                                    584 mL
   Blood products:
                                                                    657 mL
                                                                    282 mL
   Total out:
                                                                  2,217 mL
                                                                  1,605 mL
   Urine:
                                                                  2,217 mL
                                                                  1,605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,123 mL
                                                                   -679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,291 (701 - 1,291) mL
   PS : 10 cmH2O
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.41/54/94.[**Numeric Identifier 128**]/33/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese, intubated
   Eyes / Conjunctiva: PERRL, Sclera anicteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : ), Crackles at bases, increased expiratory phase, expiratory
   wheezes
   Abdominal: Soft, nontender, nondistended
   Extremities: Warm, Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Agitated, moving all extremities
   Labs / Radiology
   133 K/uL
   10.8 g/dL
   141 mg/dL
   1.4 mg/dL
   33 mEq/L
   3.1 mEq/L
   35 mg/dL
   96 mEq/L
   138 mEq/L
   29.5 %
   4.2 K/uL
        [image002.jpg]
                            [**2123-12-29**]  10:11 AM
                            [**2123-12-29**]  10:22 AM
                            [**2123-12-29**]  03:50 PM
                            [**2123-12-29**]  03:57 PM
                            [**2123-12-29**]  09:59 PM
                            [**2123-12-29**]  10:12 PM
                            [**2123-12-30**]  12:11 AM
                            [**2123-12-30**]  02:43 AM
                            [**2123-12-30**]  05:04 AM
                            [**2123-12-30**]  05:22 AM
   WBC
   4.2
   Hct
   25.9
   28.0
   29.5
   Plt
   133
   Cr
   1.3
   1.4
   TropT
   2.28
   2.12
   TCO2
   34
   33
   31
   33
   33
   35
   Glucose
   144
   141
   Other labs: PT / PTT / INR:12.3/21.8/1.0, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, LDH:778 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
   # Respiratory failure: Multifactorial with bronchspasm/obstruction as
   primary pathology at this time with probable infection and acute
   coronary syndrome/congestive heart failure contributing.  He has a
   long-standing history of tobacco abuse and likely COPD but no PFTs in
   our record.  His chest x-ray is unrevealing, however, he had fevers
   prior to presentation and bacterial pathogens, viral/influenza, PCP,
   [**Name10 (NameIs) **] [**Doctor First Name **] remain on the differential; he will need a CT chest for further
   evaluation when stable.  Of note, he was admitted to the MICU one year
   ago for pneumonia with Bordetella bronchisepticum.  He is maintained on
   Bactrim once a day for PCP prophylaxis and azithromycin once a week for
   [**Doctor First Name **] prophylaxis as an outpatient.  He has acute systolic congestive
   heart failure and apparent decrease in EF from 30% to 15% on OSH TTE.
   - Continue Solu-Medrol 125 mg IV Q8H and Combivent Q4H for COPD
   - Will continue broad spectrum antibiotics with vancomycin, zosyn, and
   azithromycin
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
   - Goal I/O even to -500 cc
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   - Chest CT does not show significant consolidation except for small
   area in LLL
   # Acute coronary syndrome: His coronary history in the setting of ECG
   changes and a positive troponin are concerning for ACS.  Q waves on EKG
   indicate STEMI.  The value of his cardiac enzymes are unlikely to
   represent demand ischemia in the setting of acute illness.  Cardiac
   enzymes starting to trend down.
   - Cardiology following; appreciate
   - Continue home aspirin, plavix
   - Continue heparin gtt, integrillin gtt for now until further
   evaluation by cardiology
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   - Restart beta-blockade to reduce myocardial oxygen requirements once
   blood pressure allows
   - Trend cardiac enzymes and serial ECGs
   - Transfuse hematocrit < 30
   - TTE in the morning
   # Acute-on-chronic diastolic and systolic congestive heart failure: Per
   cardiology, his OSH TTE shows EF 15% from previous 30%.  He was given
   lasix at the OSH without mention of fluid balance.
   - Cardiology consult; appreciate
   - Goal I/O even for now; consider diuresis if blood pressure stable
   - Restart beta-blockade once blood pressure allows
   - Start ACEI once blood pressure allows
   # Fevers: Fever to 102 prior to presentation
 apparently afebrile at
   OSH.  Due to infection versus acute coronary syndrome.  If infection,
   most likely etiology would be pulmonary.
   - Continue vancomycin/zosyn/azithromycin for now pending cultures
   plan to discontinue at 48 hours if cultures negative
   - Mini-BAL for above
   - Urinalysis, culture
   - Blood cultures
   - Stool cultures if diarrhea
   - Consider CT chest if stable
   # Acute on chronic anemia: Baseline mid-30s
 hematocrit drop from 30
   to 26 overnight without obvious source of bleeding.  Patient on heparin
   gtt and integrillin gtt.  Chronic anemia likely related to his advanced
   HIV (marrow suppression and/or medication effect).
   - Transfused 1U PRBC overnight
   - Guaiac stools
   - Transfuse hematocrit < 30 given acute coronary syndrome
   - Consider CT abdomen to rule out RP bleed if no appropriate bump after
   transfusion
   - Monitor
   # Hypotension: Resolved.  Patient was on levophed on transfer but now
   off.
   - Monitor
   # Elevated AST: Etiology unclear; may be medication effect versus due
   to infection.  Other liver enzymes within normal limits.
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   - OMR indicates that he received the Pneumovax in [**2117**]
   # Acute on chronic renal failure: Improved.  Baseline creatinine 1.2,
   recently 1.5 in [**Month (only) 1033**].  [**Month (only) 60**] be due to poor forward flow.
   - Urine electrolytes
   - Renally dose medications
   - Monitor
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Needs CT to further evaluate compression fracture and consider
   neurosurgical evaluation
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-30 12:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, ACS
   HPI:Please see previous notes for details. Brieflly, 48 year old man
   with HIV low CD4 admitted with respiratory failure and ACS.Respiratory
   failure now thought secondary to AECOPD. ACS completed prior to
   admitted, now past window for salvage cath.
   24 Hour Events:
 ARTERIAL LINE - START [**2123-12-29**] 08:41 AM
   TTE yesterday with decreased EF from prior: 30 -> 20.
   Continued auto-peep on ventilator.
   CT with min. bibasilar atelectasis/consolidation, and severe
   emphysematous change.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-29**] 08:00 PM
   Azithromycin - [**2123-12-29**] 08:00 PM
   Acyclovir - [**2123-12-30**] 12:00 AM
   Piperacillin - [**2123-12-30**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2123-12-29**] 09:00 PM
   Midazolam (Versed) - [**2123-12-29**] 10:48 PM
   Fentanyl - [**2123-12-29**] 10:48 PM
   Furosemide (Lasix) - [**2123-12-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-30**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 85 (80 - 93) bpm
   BP: 109/74(84) {70/59(52) - 116/76(88)} mmHg
   RR: 11 (6 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 338 (12 - 344)mmHg
   Total In:
                                                                  3,340 mL
                                                                  1,335 mL
   PO:
   TF:
   IVF:
                                                                  2,103 mL
                                                                    993 mL
   Blood products:
                                                                    657 mL
                                                                    282 mL
   Total out:
                                                                  2,217 mL
                                                                  2,275 mL
   Urine:
                                                                  2,217 mL
                                                                  2,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,123 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 742 (742 - 1,291) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.41/54/94.[**Numeric Identifier 128**]/33/7
   Ve: 8 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   133 K/uL
   141 mg/dL
   1.4 mg/dL
   33 mEq/L
   3.1 mEq/L
   35 mg/dL
   96 mEq/L
   138 mEq/L
   29.5 %
   4.2 K/uL
        [image002.jpg]
                            [**2123-12-29**]  10:11 AM
                            [**2123-12-29**]  10:22 AM
                            [**2123-12-29**]  03:50 PM
                            [**2123-12-29**]  03:57 PM
                            [**2123-12-29**]  09:59 PM
                            [**2123-12-29**]  10:12 PM
                            [**2123-12-30**]  12:11 AM
                            [**2123-12-30**]  02:43 AM
                            [**2123-12-30**]  05:04 AM
                            [**2123-12-30**]  05:22 AM
   WBC
   4.2
   Hct
   25.9
   28.0
   29.5
   Plt
   133
   Cr
   1.3
   1.4
   TropT
   2.28
   2.12
   TCO2
   34
   33
   31
   33
   33
   35
   Glucose
   144
   141
   Other labs: PT / PTT / INR:12.3/21.8/1.0, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, LDH:778 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   54 year old man with AECOPD,  HIV with low CD4 on HAART and now
   completed ACS
   Respiratory Failure. PCP [**Name Initial (PRE) **] (admittedly, only one sample but low
   pre-test prob. ). Still diffusely wheezy. Add inhaled steroid today.
   Cont. Vanc/Zosyn x 8 days. Diruese -500 t0 1L today.  Increase PEEP to
   compensate for auto-peep. Switch to PC with long expiratory time.
   ACS - Completed infarct. On ASA/PLAVIX. Low dose BB probably okay (even
   in setting of COPD). Aim to add ACE as tolerated.
   Anemia - s/p 2 U PRBC. Trend Hct. heparin + integrilin now off.
   HIV - Home HAART + prophylaxis.
   further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-31 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Started beclamethasone
   - Increased PEEP to try to decrease work of breathing, autoPEEP
   - Changed to CPAP, patient TV 1.2L, RR 6-8 bpm. Appears slightly more
   comfortable.
   - Started metoprolol and lisinopril
   - Final cardiology recommendation is for functional exercise study
   (dobutamine mibi, FDG PET) once respiratory status improves
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2123-12-29**] 08:00 PM
   Acyclovir - [**2123-12-30**] 12:00 AM
   Vancomycin - [**2123-12-30**] 08:00 PM
   Piperacillin - [**2123-12-31**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-12-31**] 12:20 AM
   Methadone Hydrochloride - [**2123-12-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-31**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 89 (83 - 93) bpm
   BP: 115/72(84) {99/60(73) - 119/77(88)} mmHg
   RR: 6 (5 - 15) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 156 (12 - 344)mmHg
   Total In:
                                                                  2,322 mL
                                                                    485 mL
   PO:
   TF:
   IVF:
                                                                  1,890 mL
                                                                    455 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                  3,325 mL
                                                                    435 mL
   Urine:
                                                                  3,325 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,213 (671 - 1,291) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.42/59/92.[**Numeric Identifier 1176**]/35/10
   Ve: 4.8 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Overweight / Obese, intubated
   Eyes / Conjunctiva: PERRL, Sclera anicteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : ), Crackles at bases, increased expiratory phase, expiratory
   wheezes
   Abdominal: Soft, nontender, nondistended
   Extremities: Warm, Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Agitated, moving all extremities
   Labs / Radiology
   124 K/uL
   10.9 g/dL
   120 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   39 mg/dL
   100 mEq/L
   142 mEq/L
   29.2 %
   4.0 K/uL
        [image002.jpg]
                            [**2123-12-29**]  10:12 PM
                            [**2123-12-30**]  12:11 AM
                            [**2123-12-30**]  02:43 AM
                            [**2123-12-30**]  05:04 AM
                            [**2123-12-30**]  05:22 AM
                            [**2123-12-30**]  03:41 PM
                            [**2123-12-30**]  03:56 PM
                            [**2123-12-30**]  05:16 PM
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
   WBC
   4.2
   4.0
   Hct
   29.5
   29.8
   29.2
   Plt
   133
   124
   Cr
   1.4
   1.2
   TCO2
   31
   33
   33
   35
   37
   38
   40
   Glucose
   141
   120
   Other labs: PT / PTT / INR:13.4/21.2/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
   # Respiratory failure: Severe COPD on imaging.  Question superimposed
   infection
 CT shows bilateral consolidations, likely atelectasis, but
   will treat for infection given immunocompromised status.  Not much
   evidence of congestive heart failure contributing per CT from
   yesterday.
   - Continue Solu-Medrol 125 mg IV Q8H
   - Continue combivent Q4H for COPD with albuterol Q1-2H PRN
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
 will discontinue azithromycin
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Acute coronary syndrome: Completed infarct
 question mid-LAD
   stenosis.  Cardiac enzymes trending down.
   - Cardiology following; appreciate -> no intervention at this time, but
   when improved
   - Continue home aspirin, plavix
   - Heparin gtt, integrillin gtt discontinued [**12-29**]
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   - Restart low-dose metoprolol today
   - Start ACEI once blood pressure allows
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Restart low-dose metoprolol today
   - Start ACEI once blood pressure allows
   # Fevers: Fever to 102 prior to presentation
 afebrile since.  Due to
   infection versus acute coronary syndrome.  If infection, most likely
   etiology would be pulmonary.  CT shows bilateral consolidations, likely
   atelectasis, but will treat for infection given immunocompromised
   status.
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
 will discontinue azithromycin
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures if diarrhea
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  No RP bleed on CT
   yesterday.  Chronic anemia likely related to his advanced HIV (marrow
   suppression and/or medication effect).
   - Guaiac stools
   - Recheck hematocrit in afternoon and transfuse < 28
   - Monitor
   # Acute on chronic renal failure: Stable.  Baseline creatinine 1.2,
   recently 1.5 in [**Month (only) 1033**].
   - Goal even today
   - Renally dose medications
   - Monitor
   # Hypotension: Resolved.  Patient was on levophed on transfer but now
   off.
   - Monitor
   # Elevated AST: Etiology unclear; may be medication effect versus due
   to infection.  Other liver enzymes within normal limits.
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   - OMR indicates that he received the Pneumovax in [**2117**]
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Needs CT to further evaluate compression fracture and consider
   neurosurgical evaluation
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-31 11:10:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 year old man with PMH HIV , low CD4 on HAART, presumed COPD, CAD s/p
   stent x 5 presented to OSH with cough + DOE. Transfered to [**Hospital1 54**] with
   respiratory failure and ACS. Now in the MICU with completed infarct,
   new EF ~ 20%, and persistent respiratory failure [**2-20**] AECOPD.
   24 Hour Events:
   Started beclamethasone inhaled
   Vent settings stable
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2123-12-29**] 08:00 PM
   Acyclovir - [**2123-12-30**] 12:00 AM
   Piperacillin - [**2123-12-31**] 06:00 AM
   Vancomycin - [**2123-12-31**] 08:00 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2123-12-31**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2123-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-31**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 89 (83 - 93) bpm
   BP: 113/71(83) {102/60(73) - 119/77(88)} mmHg
   RR: 7 (5 - 15) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 156 (12 - 339)mmHg
   Total In:
                                                                  2,322 mL
                                                                    811 mL
   PO:
   TF:
   IVF:
                                                                  1,890 mL
                                                                    781 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                  3,325 mL
                                                                    895 mL
   Urine:
                                                                  3,325 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 738 (671 - 1,213) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.42/59/92.[**Numeric Identifier 1176**]/35/10
   Ve: 9.5 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   124 K/uL
   120 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   39 mg/dL
   100 mEq/L
   142 mEq/L
   29.2 %
   4.0 K/uL
        [image002.jpg]
                            [**2123-12-29**]  10:12 PM
                            [**2123-12-30**]  12:11 AM
                            [**2123-12-30**]  02:43 AM
                            [**2123-12-30**]  05:04 AM
                            [**2123-12-30**]  05:22 AM
                            [**2123-12-30**]  03:41 PM
                            [**2123-12-30**]  03:56 PM
                            [**2123-12-30**]  05:16 PM
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
   WBC
   4.2
   4.0
   Hct
   29.5
   29.8
   29.2
   Plt
   133
   124
   Cr
   1.4
   1.2
   TCO2
   31
   33
   33
   35
   37
   38
   40
   Glucose
   141
   120
   Other labs: PT / PTT / INR:13.4/21.2/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   48 year old man with PMH history as above now with persistent
   respiratory failure [**2-20**] AECOPD. Plan as per resident note. Briefly, s/p
   ACS with no hit to EF (currently ~20%) on ASA/BB/ACE/Plavix. He does
   not tolerate statis due to interaction with his HAART. From a
   respiratory standpoint he is less wheezy today. Based on the pressure
   waveforms on his vent (matching machine rate and pt. triggering rate)
   his auto-peep appears to be well compensated for at set PEEP of 14. we
   can switch his IV steroids to po prednisone 60, continue MDI's. He is
   slightly over-ventilated on his ABG so will minimize inspiratory
   pressures.
   ICU Care
   Nutrition:
   Comments: On tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-01 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Changed Solu-Medrol to prednisone 60 mg
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2123-12-29**] 08:00 PM
   Fluconazole - [**2123-12-31**] 08:00 AM
   Bactrim (SMX/TMP) - [**2123-12-31**] 08:00 AM
   Acyclovir - [**2123-12-31**] 04:00 PM
   Vancomycin - [**2123-12-31**] 08:00 PM
   Piperacillin - [**2124-1-1**] 06:04 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-1**] 12:00 AM
   Methadone Hydrochloride - [**2124-1-1**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-1**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 84 (81 - 89) bpm
   BP: 111/70(81) {108/70(81) - 116/77(88)} mmHg
   RR: 5 (5 - 9) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,431 mL
                                                                    611 mL
   PO:
             TF:
                                                                    226 mL
                                                                    169 mL
   IVF:
                                                                  1,806 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    500 mL
   Urine:
                                                                  1,860 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
   Balance:
                                                                    296 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,051 (738 - 1,253) mL
   PS : 5 cmH2O
   RR (Spontaneous): 5
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.40/63/108/35/11
   Ve: 5.7 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: Overweight / Obese, intubated
   Eyes / Conjunctiva: PERRL, Sclera anicteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : ), Crackles at bases, increased expiratory phase, expiratory
   wheezes
   Abdominal: Soft, nontender, nondistended
   Extremities: Warm, Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Agitated, moving all extremities
   Labs / Radiology
   133 K/uL
   10.9 g/dL
   122 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   48 mg/dL
   106 mEq/L
   146 mEq/L
   31.3 %
   3.5 K/uL
        [image002.jpg]
                            [**2123-12-30**]  05:22 AM
                            [**2123-12-30**]  03:41 PM
                            [**2123-12-30**]  03:56 PM
                            [**2123-12-30**]  05:16 PM
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
                            [**2123-12-31**]  12:57 PM
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
   WBC
   4.0
   3.5
   Hct
   29.8
   29.2
   29.4
   31.3
   Plt
   124
   133
   Cr
   1.2
   1.2
   TCO2
   35
   37
   38
   40
   38
   40
   Glucose
   120
   122
   Other labs: PT / PTT / INR:14.6/22.1/1.3, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
   # Respiratory failure: Severe COPD on imaging
 less wheezy on
   examination today.  Question superimposed infection
 CT shows
   bilateral consolidations, likely atelectasis, but will treat for
   infection given immunocompromised status.  Not much evidence of
   congestive heart failure contributing per CT from yesterday.
   - Change Solu-Medrol 125 mg IV Q8H to prednisone 60 mg PO daily
   - Continue combivent Q4H for COPD with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Acute coronary syndrome: Completed infarct
 question mid-LAD
   stenosis.  Cardiac enzymes trending down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol
 add on lisinopril today
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Continue metoprolol
 add on lisinopril today
   - Cardiology follow-up as an outpatient for question AICD
   # Fevers: Fever to 102 prior to presentation
 afebrile since.  Due to
   infection versus acute coronary syndrome.  If infection, most likely
   etiology would be pulmonary.  CT shows bilateral consolidations, likely
   atelectasis, but will treat for infection given immunocompromised
   status.
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  No RP bleed on CT
   yesterday.  Chronic anemia likely related to his advanced HIV (marrow
   suppression and/or medication effect).
   - Guaiac stools
   - Recheck hematocrit in afternoon and transfuse < 28
   - Monitor
   # Acute on chronic renal failure: Stable.  Baseline creatinine 1.2,
   recently 1.5 in [**Month (only) 1033**].
   - Goal even today
   - Renally dose medications
   - Monitor
   # Hypotension: Resolved.  Patient was on levophed on transfer but now
   off.
   - Monitor
   # Elevated AST: Etiology unclear; may be medication effect versus due
   to infection.  Other liver enzymes within normal limits.
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   - OMR indicates that he received the Pneumovax in [**2117**]
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-1**] 02:58 AM 45 mL/hour
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP: HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-01-01 07:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   48 yo M w/HIV, low CD4 on HAART, presumed COPD, CAD s/p stent x 5
   presented to OSH w/cough, DOE. Transferred to [**Hospital1 54**] w/respiratory
   failure and ACS.  Now in the MICU with completed infarct, new EF ~ 20%,
   and persistent respiratory failure [**2-20**] AECOPD.
   24 Hour Events:
   Changed from solumedrol to prednisone.
   Fever 101.6 this am, blood cxs x2 sent.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2123-12-29**] 08:00 PM
   Fluconazole - [**2123-12-31**] 08:00 AM
   Bactrim (SMX/TMP) - [**2123-12-31**] 08:00 AM
   Acyclovir - [**2123-12-31**] 04:00 PM
   Vancomycin - [**2123-12-31**] 08:00 PM
   Piperacillin - [**2124-1-1**] 06:04 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-1**] 12:00 AM
   Methadone Hydrochloride - [**2124-1-1**] 06:04 AM
   Other medications:
   Prednisone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-1**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 87 (81 - 89) bpm
   BP: 118/76(87) {108/70(81) - 118/77(88)} mmHg
   RR: 5 (5 - 9) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,431 mL
                                                                    713 mL
   PO:
             TF:
                                                                    226 mL
                                                                    220 mL
   IVF:
                                                                  1,806 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    680 mL
   Urine:
                                                                  1,860 mL
                                                                    680 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
   Balance:
                                                                    296 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,051 (738 - 1,253) mL
   PS : 5 cmH2O
   RR (Spontaneous): 5
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.40/63/108/35/11
   Ve: 5.7 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Intubated, sedated, not arousable to voice
   Forced exhalation
   Faint insp wheeze on L anteriorly, prolonged exp phase, no exp wheezes
   Nls1s2, reg
   Abd soft, ND, +BS
   Ext warm, mild edema
   Labs / Radiology
   10.9 g/dL
   133 K/uL
   122 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   48 mg/dL
   106 mEq/L
   146 mEq/L
   31.3 %
   3.5 K/uL
        [image002.jpg]
                            [**2123-12-30**]  05:22 AM
                            [**2123-12-30**]  03:41 PM
                            [**2123-12-30**]  03:56 PM
                            [**2123-12-30**]  05:16 PM
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
                            [**2123-12-31**]  12:57 PM
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
   WBC
   4.0
   3.5
   Hct
   29.8
   29.2
   29.4
   31.3
   Plt
   124
   133
   Cr
   1.2
   1.2
   TCO2
   35
   37
   38
   40
   38
   40
   Glucose
   120
   122
   Other labs: PT / PTT / INR:14.6/22.1/1.3, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   Portable CXR
 ETT high (7-8cm above carina), L IJ crosses midline,
   hazy opacity R base
   No new micro
   Assessment and Plan
   See resident note for full details.
   48 yo M w/PMHx as above now w/persistent respiratory failure [**2-20**]
   AECOPD, also s/p ACS w/new hit to EF (currently ~20%).
   -Fever- HD stable, f/u bld cxs, send sputum (?new RLL infiltrate).
   Cont current broad spectrum abx.
   -Resp failure- From a respiratory standpoint he is less wheezy today.
   Based on the pressure waveforms on his vent (matching machine rate and
   pt. triggering rate) his auto-peep appears to be well compensated for
   set PEEP of 14.
   wean FiO2 (aim for O2 sat ~92% in this CO2 retainer), decrease peep
   slowly if tolerates from auto-peep standpt.  Cont prednisone, RTC and
   prn BDs.
   -s/p ACS- cont asa, BB, ACEI, plavix.  Does not tolerate statins [**2-20**]
   interaction w/HAART.
   -AIDS- on complex HAART regimen.  Continue Bactrim, Azithro, and
   fluconazole ppx.
   -Sedation- on methadone, fentanyl, versed.  Decrease fentanyl as able,
   though may be limited by vent dysnchrony.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-1**] 02:58 AM 45 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: PPI
   VAP: peridex, HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30 min

2124-01-01 08:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Changed Solu-Medrol to prednisone 60 mg
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2123-12-29**] 08:00 PM
   Fluconazole - [**2123-12-31**] 08:00 AM
   Bactrim (SMX/TMP) - [**2123-12-31**] 08:00 AM
   Acyclovir - [**2123-12-31**] 04:00 PM
   Piperacillin - [**2124-1-1**] 06:04 AM
   Vancomycin - [**2124-1-1**] 07:51 AM
   Infusions:
   Fentanyl - 225 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-1**] 06:04 AM
   Heparin Sodium (Prophylaxis) - [**2124-1-1**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-1**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 87 (81 - 89) bpm
   BP: 118/76(87) {108/70(81) - 118/77(88)} mmHg
   RR: 5 (5 - 9) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,431 mL
                                                                  1,069 mL
   PO:
             TF:
                                                                    226 mL
                                                                    249 mL
   IVF:
                                                                  1,806 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    680 mL
   Urine:
                                                                  1,860 mL
                                                                    680 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
   Balance:
                                                                    296 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,051 (1,051 - 1,253) mL
   PS : 5 cmH2O
   RR (Spontaneous): 5
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.40/63/108/35/11
   Ve: 5.7 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs: Clear to auscultation; prolonged expiratory phase that includes
   abdominal muscles in forced expiration
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive (sedated)
   Labs / Radiology
   133 K/uL
   10.9 g/dL
   122 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   48 mg/dL
   106 mEq/L
   146 mEq/L
   31.3 %
   3.5 K/uL
        [image002.jpg]
                            [**2123-12-30**]  05:22 AM
                            [**2123-12-30**]  03:41 PM
                            [**2123-12-30**]  03:56 PM
                            [**2123-12-30**]  05:16 PM
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
                            [**2123-12-31**]  12:57 PM
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
   WBC
   4.0
   3.5
   Hct
   29.8
   29.2
   29.4
   31.3
   Plt
   124
   133
   Cr
   1.2
   1.2
   TCO2
   35
   37
   38
   40
   38
   40
   Glucose
   120
   122
   Other labs: PT / PTT / INR:14.6/22.1/1.3, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
   # Respiratory failure: Severe COPD on imaging
 less wheezy on
   examination today.  Question superimposed infection
 CT shows
   bilateral consolidations, likely atelectasis, but will treat for
   infection given immunocompromised status.  Not much evidence of
   congestive heart failure contributing per CT from yesterday. Prolonged
   expiratory phase c/w COPD; continuing inhalers and steroids, would not
   increase yet; will see if we can dial down FiO2 and PEEP at all today
   - Change Solu-Medrol 125 mg IV Q8H to prednisone 60 mg PO daily
   - Continue combivent Q4H for COPD with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Acute coronary syndrome: Completed infarct
 question mid-LAD
   stenosis.  Cardiac enzymes trending down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol
 add on lisinopril today
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Continue metoprolol
 add on lisinopril today
   - Cardiology follow-up as an outpatient for question AICD
   # Fevers: Fever to 102 prior to presentation
 afebrile since.  Due to
   infection versus acute coronary syndrome.  If infection, most likely
   etiology would be pulmonary.  CT shows bilateral consolidations, likely
   atelectasis, but treating for infection given immunocompromised status.
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  Chronic anemia likely
   related to his advanced HIV (marrow suppression and/or medication
   effect).
   - Guaiac stools
   - Transfuse <30
   - Monitor
   # Acute on chronic renal failure: Stable.  Baseline creatinine 1.2,
   recently 1.5 in [**Month (only) 1033**].
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-1**] 02:58 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-01-02 07:33:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, completed myocardial infarction
   24 Hour Events:
 BLOOD CULTURED - At [**2124-1-1**] 08:27 AM
 URINE CULTURE - At [**2124-1-1**] 02:10 PM
 SPUTUM CULTURE - At [**2124-1-1**] 02:13 PM
 FEVER - 102.1
F - [**2124-1-1**] 02:00 PM
   Tried to wean down sedation and vent support
   Did manage to wean down sedation; went to PEEP of 13; then desatted
   <90, went back up to PEEP of 14 and has done fine
   Partner reports patient recently lost tooth filling, and was trying to
   find a dentist to replace it. Patient per partner is very careful with
   his dental health.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2123-12-31**] 08:00 AM
   Fluconazole - [**2123-12-31**] 08:00 AM
   Vancomycin - [**2124-1-1**] 08:00 PM
   Piperacillin - [**2124-1-1**] 09:00 PM
   Acyclovir - [**2124-1-2**] 12:00 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-2**] 12:00 AM
   Methadone Hydrochloride - [**2124-1-2**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-1-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.2
C (100.8
   HR: 80 (78 - 90) bpm
   BP: 108/67(78) {107/63(75) - 123/78(90)} mmHg
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,372 mL
                                                                    917 mL
   PO:
             TF:
                                                                  1,683 mL
                                                                    658 mL
   IVF:
                                                                  2,599 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    750 mL
   Urine:
                                                                  2,145 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,927 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,002 (874 - 1,297) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.42/56/85.[**Numeric Identifier 128**]/37/9
   Ve: 6.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Fair
   airmovement, upperairway noises, no significant wheezing: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Mild distention
   Extremities: no edema, cyanosis, extremities warm
   Skin:  Warm, No(t) Rash:
   Neurologic: Sedated, Tone: normal
   Labs / Radiology
   138 K/uL
   11.1 g/dL
   106 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.5 mEq/L
   44 mg/dL
   105 mEq/L
   145 mEq/L
   31.6 %
   3.5 K/uL
        [image002.jpg]
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
                            [**2123-12-31**]  12:57 PM
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
                            [**2124-1-1**]  03:10 PM
                            [**2124-1-2**]  02:22 AM
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
   WBC
   4.0
   3.5
   3.5
   Hct
   29.2
   29.4
   31.3
   31.6
   Plt
   124
   133
   138
   Cr
   1.2
   1.2
   1.1
   TCO2
   40
   38
   40
   37
   41
   38
   Glucose
   120
   122
   106
   Other labs: PT / PTT / INR:14.6/22.1/1.3, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   RLL/RML consolidation worsened, no significant pleural effusion
   [**1-1**] sputum budding yest 1+ growing
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Fevers: Fever to 102 prior to presentation, now spiking again.
   Patient
s partner reports history of fever in response to medications
   and recent dental filling lost. . Initially attributed to acute
   coronary syndrome, now concerned for pulmonary infection. CT shows
   bilateral consolidations, likely atelectasis, but treating for
   infection given immunocompromised status.
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days , also on fluconazole
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.5
   - Consider BRONCHOSCOPY today to eval worsening infiltrate on CXR.
   - Advance ET tube 1 cm
   - Zosyn is [**Hospital1 **] am and pm, but given concern for infection cannot stop
   at this time. Need to consider as possible source for fevers.
   # Respiratory failure: Severe COPD on imaging.  Question superimposed
   infection
 CT shows bilateral consolidations, likely atelectasis, but
   will treat for infection given immunocompromised status.  Not much
   evidence of congestive heart failure contributing per CT. Prolonged
   expiratory phase c/w COPD; continuing inhalers and steroids. Converted
   solumedrol to prednisone [**1-1**].
   - PEEP and FiO2  -- wean FiO2
   - Continue combivent Q4H for COPD with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Acute coronary syndrome: Completed infarct
 question mid-LAD
   stenosis.  Cardiac enzymes trending down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol
 add on lisinopril today
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Continue metoprolol
 add on lisinopril today
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  Chronic anemia likely
   related to his advanced HIV (marrow suppression and/or medication
   effect).
   - Guaiac stools
   - Transfuse <30
   - Monitor
   # Acute on chronic renal failure: at baseline
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-2**] 06:21 AM 60 mL/hour
   Glycemic Control:  Comments: insulin
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: vent setting too  high for [**Last Name (un) 3406**] or daily wake up
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   FEVERS: consider CT head with IV contrast to eval for dental abscess if
   bronchoscopy is unrevealing
   ------ Protected Section Addendum Entered By:[**Name (NI) 3087**] [**Last Name (NamePattern1) 5140**], MD
   on:[**2124-1-2**] 13:03 ------

2124-01-02 07:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo M w/AIDS, low CD4 on HAART, presumed COPD, CAD s/p stent x 5
   presented to OSH w/cough, DOE. Transferred to [**Hospital1 54**] w/respiratory
   failure and ACS.  Now in the MICU with completed infarct, new EF ~ 20%,
   and persistent respiratory failure [**2-20**] AECOPD.
   24 Hour Events:
   Yesterday am, febrile to 102.1, cx
   Spiked again this am to 102, re-cx
   Patient
s partner, [**Name (NI) 1751**], reports pt has had drug fevers during prior
   hospitalizations.  Also gave hx that patient had filling which fell out
   and had food getting stuck in it- not intervened on.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Vancomycin - [**2124-1-1**] 08:00 PM
   Piperacillin - [**2124-1-1**] 09:00 PM
   Fluconazole 100mg q24
   Bactrim ppx
   Acyclovir ppx
   Azithro qwk (ppx)
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam - 5 mg/hour
   Other ICU medications:
   SC Heparin ppx
   Methadone 20mg IV q6hrs
   lansoprazole
   Other medications:
   HAART
   Insulin SS
   Lopressor 25mg [**Hospital1 **]
   Lisinopril 10mg qd
   Albuterol inh q2hrs prn
   Atrovent q4hrs
   Prednisone 60mg qd
   Beclomethasone inh qd
   Peridex
   Asa
   plavix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.2
C (100.8
   HR: 80 (78 - 90) bpm
   BP: 108/67(78) {107/63(75) - 123/78(90)} mmHg
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,372 mL
                                                                    940 mL
   PO:
             TF:
                                                                  1,683 mL
                                                                    673 mL
   IVF:
                                                                  2,599 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    750 mL
   Urine:
                                                                  2,145 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,927 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,002 (874 - 1,297) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.42/56/85.[**Numeric Identifier 128**]/37/9
   Ve: 6.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Intubated, sedated, not arousable to voice
   PERRL
   Forced exhalation
   Insp crackles laterally on R otherwise CTAB, prolonged exp phase, no
   exp wheezes
   Nls1s2, reg
   Abd soft, ND, +BS
   Ext warm, mild edema
   Labs / Radiology
   11.1 g/dL
   138 K/uL
   106 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.5 mEq/L
   44 mg/dL
   105 mEq/L
   145 mEq/L
   31.6 %
   3.5 K/uL
        [image002.jpg]
                            [**2123-12-31**]  03:26 AM
                            [**2123-12-31**]  03:45 AM
                            [**2123-12-31**]  12:57 PM
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
                            [**2124-1-1**]  03:10 PM
                            [**2124-1-2**]  02:22 AM
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
   WBC
   4.0
   3.5
   3.5
   Hct
   29.2
   29.4
   31.3
   31.6
   Plt
   124
   133
   138
   Cr
   1.2
   1.2
   1.1
   TCO2
   40
   38
   40
   37
   41
   38
   Glucose
   120
   122
   106
   Other labs: PT / PTT / INR:14.6/22.1/1.3, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:27/73, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:91.4 %, Lymph:5.7 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   [**1-1**] sputum- 1+budding yeast
   Portable CXR- ETT borderline high, emerging RLL/RML infiltrate
   Assessment and Plan
   48 yo M w/PMHx as above now w/persistent respiratory failure [**2-20**]
   AECOPD, VAP, also s/p ACS w/new reduced EF (currently ~20%).
   -Fever- HD stable, f/u cxs, since [**12-30**] has developed evolving RLL/RML
   infiltrate
initially appeared atelectatic but now with clear infiltrate
   devloping - likely needs bronch to r/o resistant organism (+/- Chest CT
   first).  Cont current broad spectrum abx.  Have micro speciate yeast in
   sputum.
   -Resp failure- Significant airflow obstruction on exam.  Wean FiO2 (aim
   for O2 sat ~92% in this CO2 retainer), decrease peep slowly if
   tolerates from auto-peep standpt.  Cont prednisone, RTC and prn BDs.
   -s/p anterior MI- cont asa, BB, ACEI, plavix.  Does not tolerate
   statins [**2-20**] interaction w/HAART.
   -AIDS- on complex HAART regimen.  Continue Bactrim, Azithro, and
   fluconazole ppx.
   -Sedation- on methadone, fentanyl, versed.  Tolerating fent/versed
   wean.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-2**] 06:21 AM 60 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: PPI
   VAP: peridex, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Critically ill
   Total time spent: 30min

2124-01-03 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Bronchoscopy revealed collapsable airways, sent bronchial washings
   - Sent B-glucan, galactomannan
   - Gave 1 liter NS given insensible loses to fever
   - Advance ET tube 1 cm
   - Weaned FiO2
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Fluconazole - [**2123-12-31**] 08:00 AM
   Bactrim (SMX/TMP) - [**2123-12-31**] 08:00 AM
   Piperacillin - [**2124-1-1**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Vancomycin - [**2124-1-2**] 08:00 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-3**] 12:04 AM
   Methadone Hydrochloride - [**2124-1-3**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-3**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.3
C (99.2
   HR: 75 (75 - 83) bpm
   BP: 103/65(77) {97/56(67) - 115/74(86)} mmHg
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,564 mL
                                                                    306 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                  2,171 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    625 mL
   Urine:
                                                                  2,280 mL
                                                                    625 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                    734 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 921 (799 - 940) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 6
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/59/103/38/10
   Ve: 7.5 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Fair
   airmovement, upperairway noises, no significant wheezing: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Mild distention
   Extremities: no edema, cyanosis, extremities warm
   Skin:  Warm, No(t) Rash:
   Neurologic: Sedated, Tone: normal
   Labs / Radiology
   140 K/uL
   11.0 g/dL
   82 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.6 mEq/L
   42 mg/dL
   105 mEq/L
   144 mEq/L
   32.1 %
   3.3 K/uL
        [image002.jpg]
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
                            [**2124-1-1**]  03:10 PM
                            [**2124-1-2**]  02:22 AM
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
                            [**2124-1-2**]  05:07 PM
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
   WBC
   3.5
   3.5
   3.3
   Hct
   29.4
   31.3
   31.6
   31.5
   32.1
   Plt
   133
   138
   140
   Cr
   1.2
   1.1
   1.0
   TCO2
   40
   37
   41
   38
   40
   Glucose
   122
   106
   82
   Other labs: PT / PTT / INR:13.5/24.2/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Fevers: Fever to 102 prior to presentation, now spiking again.
   Patient
s partner reports history of fever in response to medications
   and recent dental filling lost. . Initially attributed to acute
   coronary syndrome, now concerned for pulmonary infection. CT shows
   bilateral consolidations, likely atelectasis, but treating for
   infection given immunocompromised status.
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days , also on fluconazole
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.5
   - Consider BRONCHOSCOPY today to eval worsening infiltrate on CXR.
   - Advance ET tube 1 cm
   - Zosyn is [**Hospital1 **] am and pm, but given concern for infection cannot stop
   at this time. Need to consider as possible source for fevers.
   # Respiratory failure: Severe COPD on imaging.  Question superimposed
   infection
 CT shows bilateral consolidations, likely atelectasis, but
   will treat for infection given immunocompromised status.  Not much
   evidence of congestive heart failure contributing per CT. Prolonged
   expiratory phase c/w COPD; continuing inhalers and steroids. Converted
   solumedrol to prednisone [**1-1**].
   - PEEP and FiO2  -- wean FiO2
   - Continue combivent Q4H for COPD with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Will continue broad spectrum antibiotics with vancomycin, zosyn x 8
   days
   - Mini-BAL for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Acute coronary syndrome: Completed infarct
 question mid-LAD
   stenosis.  Cardiac enzymes trending down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol
 add on lisinopril today
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Continue metoprolol
 add on lisinopril today
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  Chronic anemia likely
   related to his advanced HIV (marrow suppression and/or medication
   effect).
   - Guaiac stools
   - Transfuse <30
   - Monitor
   # Acute on chronic renal failure: at baseline
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-01-03 11:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 48 year old man with
   HIV, CAD , COPD p/w AECOPD and ACS. Now with EF ~20%, sig. bronchospasm
   and tracheobronchomalsia on bronch yesterday. Persistent vent
   requirement. No positive cutures.
   24 Hour Events:
   Bronch - notable for tracheomalacia. BAL sent.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Vancomycin - [**2124-1-3**] 09:41 AM
   Piperacillin - [**2124-1-3**] 09:41 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-3**] 12:04 AM
   Methadone Hydrochloride - [**2124-1-3**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-3**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.4
C (99.4
   HR: 82 (74 - 82) bpm
   BP: 101/63(74) {97/56(67) - 108/68(79)} mmHg
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,564 mL
                                                                    704 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                  2,171 mL
                                                                    704 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                  1,075 mL
   Urine:
                                                                  2,280 mL
                                                                  1,075 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                    734 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 921 (799 - 940) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 6
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.42/59/103/38/10
   Ve: 7.5 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   140 K/uL
   82 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.6 mEq/L
   42 mg/dL
   105 mEq/L
   144 mEq/L
   32.1 %
   3.3 K/uL
        [image002.jpg]
                            [**2123-12-31**]  04:16 PM
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
                            [**2124-1-1**]  03:10 PM
                            [**2124-1-2**]  02:22 AM
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
                            [**2124-1-2**]  05:07 PM
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
   WBC
   3.5
   3.5
   3.3
   Hct
   29.4
   31.3
   31.6
   31.5
   32.1
   Plt
   133
   138
   140
   Cr
   1.2
   1.1
   1.0
   TCO2
   40
   37
   41
   38
   40
   Glucose
   122
   106
   82
   Other labs: PT / PTT / INR:13.5/24.2/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   48 year old man with HIV, low CD4 on HAART, CAD, s/p ACS , HF with EF
   now 20% and apparent AECOPD. Less bronchospasm on exam today, will
   start to wean steroids. He
   is having more difficulty with oxygenation today. Increased
   secretions,  new fever and possible infiltrate on CXR so suspect new
   VAP. Culutres pending from bronchoscopy, will f/u. He is on
   vanc + zosyn. Will add cipro today. Newly hypotensive - will try to
   decrease PEEP as well as check Cv02 and pulse pressure variation today.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Restarting tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-03 14:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Bronchoscopy yesterday showed tracheobronchomalacia, BAL sent
   - Sent B-glucan, galactomannan
   - Gave 1 liter NS given insensible loses to fever
   - Advance ET tube 1 cm
   - Weaned FiO2
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Vancomycin - [**2124-1-3**] 09:41 AM
   Piperacillin - [**2124-1-3**] 09:41 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-3**] 12:04 AM
   Methadone Hydrochloride - [**2124-1-3**] 12:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-3**] 01:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.5
C (97.7
   HR: 84 (74 - 84) bpm
   BP: 96/53(65) {86/51(61) - 108/68(79)} mmHg
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,572 mL
                                                                    800 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                  2,178 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                  1,250 mL
   Urine:
                                                                  2,280 mL
                                                                  1,250 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                    742 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 756 (756 - 921) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/59/103/38/10
   Ve: 6.8 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   11.0 g/dL
   82 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.6 mEq/L
   42 mg/dL
   105 mEq/L
   144 mEq/L
   35
   3.3 K/uL
        [image002.jpg]
                            [**2124-1-1**]  03:52 AM
                            [**2124-1-1**]  04:12 AM
                            [**2124-1-1**]  03:10 PM
                            [**2124-1-2**]  02:22 AM
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
                            [**2124-1-2**]  05:07 PM
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
                            [**2124-1-3**]  12:48 PM
   WBC
   3.5
   3.5
   3.3
   Hct
   31.3
   31.6
   31.5
   32.1
   35
   Plt
   133
   138
   140
   Cr
   1.2
   1.1
   1.0
   TCO2
   40
   37
   41
   38
   40
   Glucose
   122
   106
   82
   Other labs: PT / PTT / INR:13.5/24.2/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   consistent with this diagnosis.  Converted solumedrol to prednisone
   [**1-1**].  Presumptive diagnosis of ventilator associated pneumonia now
   with new infiltrate, increased secretions
 s/p BAL [**1-2**].  Not much
   evidence of congestive heart failure contributing per CT.
   - Continue prednisone
 decrease to 40 mg today
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Wean PEEP as possible
   - Continue broad spectrum antibiotics with vancomycin, zosyn -> add
   ciprofloxacin today, increase dosing of zosyn from Q8H to Q6H
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Fevers: Fever to 102 prior to presentation, now with fevers again.
   Initially attributed to acute coronary syndrome, now concerned for
   VAP.  CT shows bilateral consolidations, likely atelectasis, but
   treating for infection given immunocompromised status.
   - Continue broad spectrum antibiotics with vancomycin, zosyn -> add
   ciprofloxacin today, increase dosing of zosyn from Q8H to Q6H
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Mini-BAL on admission for: Bronchial culture & gram stain; Legionella
   culture; Rapid Respiratory Viral Screen & Culture; Pneumocystis smear;
   CMV culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.5
   # Relative hypotension: Believed secondary to sedation and high PEEP.
   Also new pneumonia as above.  CvO2 91% and no respiratory variation to
   suggest hypovolemia contributing.
   - Wean PEEP
   - Antibiotics as above
   - Hold metoprolol, lisinopril for now
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix
   - Hold metoprolol, lisinopril for now given relative hypotension
   (restart [**Name (NI) 3253**] as captopril when able)
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Hold metoprolol, lisinopril for now (restart [**Name (NI) 3253**] as captopril when
   able)
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  Chronic anemia likely
   related to his advanced HIV (marrow suppression and/or medication
   effect).
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - Monitor
   # Acute on chronic renal failure: At baseline.
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP: HOB elevation, oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-01-04 07:54:00 Physician Resident Progress Note
Chief Complaint: MI; inability to wean from vent
   24 Hour Events:
   - Tapered prednisone to 40 mg daily
   - Increased zosyn from Q8H to Q6H
   - Decreased PEEP
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Vancomycin - [**2124-1-3**] 08:00 PM
   Piperacillin - [**2124-1-4**] 02:00 AM
   Ciprofloxacin - [**2124-1-4**] 06:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-4**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: long exhalation time
   Genitourinary: Foley
   Flowsheet Data as of  [**2124-1-4**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 86 (75 - 106) bpm
   BP: 108/65(78) {86/51(61) - 113/65(78)} mmHg
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,598 mL
                                                                    574 mL
   PO:
             TF:
                                                                    460 mL
                                                                     58 mL
   IVF:
                                                                  2,078 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    800 mL
   Urine:
                                                                  2,535 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     63 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 795 (756 - 1,006) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.41/60/125/36/11
   Ve: 7.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), faint heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   very long exhalation times; continuing to use contraction of abdominal
   muscles to support exhalation
   Abdominal: Bowel sounds present, firm and contracting for exhalation
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash: in limited exam, No(t) Jaundice
   Neurologic: Responds to: Unresponsive to voice and mild stimulation,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   139 K/uL
   10.8 g/dL
   82 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.5 mEq/L
   37 mg/dL
   99 mEq/L
   140 mEq/L
   31.0 %
   3.7 K/uL
        [image002.jpg]
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
                            [**2124-1-2**]  05:07 PM
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
                            [**2124-1-3**]  12:48 PM
                            [**2124-1-3**]  05:14 PM
                            [**2124-1-4**]  03:06 AM
                            [**2124-1-4**]  03:19 AM
                            [**2124-1-4**]  03:25 AM
   WBC
   3.3
   3.7
   Hct
   31.5
   32.1
   35
   31.0
   Plt
   140
   139
   Cr
   1.0
   0.8
   TCO2
   41
   38
   40
   36
   39
   Glucose
   82
   Other labs: PT / PTT / INR:13.7/24.4/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANEMIA, OTHER
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   consistent with this diagnosis.  Converted solumedrol to prednisone
   [**1-1**].  Presumptive diagnosis of ventilator associated pneumonia now
   with new infiltrate, increased secretions
 s/p BAL [**1-2**].  Not much
   evidence of congestive heart failure contributing per CT.
   - Continue prednisone
 decrease to 40 mg today
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Wean PEEP as possible
   - Continue broad spectrum antibiotics with vancomycin, zosyn -> add
   ciprofloxacin today, increase dosing of zosyn from Q8H to Q6H
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed
   # Fevers: Fever to 102 prior to presentation, now with fevers again.
   Initially attributed to acute coronary syndrome, now concerned for
   VAP.  CT shows bilateral consolidations, likely atelectasis, but
   treating for infection given immunocompromised status.
   - Continue broad spectrum antibiotics with vancomycin, zosyn -> add
   ciprofloxacin today, increase dosing of zosyn from Q8H to Q6H
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Mini-BAL on admission for: Bronchial culture & gram stain; Legionella
   culture; Rapid Respiratory Viral Screen & Culture; Pneumocystis smear;
   CMV culture; Acid fast (TB) culture & smear; Fungal culture
 all NGTD
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.5
   # Relative hypotension: Believed secondary to sedation and high PEEP.
   Also new pneumonia as above.  CvO2 91% and no respiratory variation to
   suggest hypovolemia contributing.
   - Wean PEEP
   - Antibiotics as above
   - Hold metoprolol, lisinopril for now
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix
   - Hold metoprolol, lisinopril for now given relative hypotension
   (restart [**Name (NI) 3253**] as captopril when able)
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: TTE
   yesterday shows EF 20-25% from 30%.
   - Cardiology following; appreciate
   - Goal I/O even for now
   - Hold metoprolol, lisinopril for now (restart [**Name (NI) 3253**] as captopril when
   able)
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Status post 3U PRBC.  BRBPR in setting of
   heparin gtt and integrillin gtt, none since.  Chronic anemia likely
   related to his advanced HIV (marrow suppression and/or medication
   effect).
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - Monitor
   # Acute on chronic renal failure: At baseline.
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-01-04 08:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 48 year old man with
   PMH HIV, low CD4 on HAART who presents with ACS, AECOPD and now likely
   VAP.
   24 Hour Events:
   Prednisone tapered to 40mg daily
   Weaned PEEP
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Vancomycin - [**2124-1-3**] 08:00 PM
   Piperacillin - [**2124-1-4**] 02:00 AM
   Ciprofloxacin - [**2124-1-4**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-4**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-4**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 81 (78 - 106) bpm
   BP: 109/66(78) {86/51(61) - 113/66(78)} mmHg
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,601 mL
                                                                    591 mL
   PO:
             TF:
                                                                    460 mL
                                                                     58 mL
   IVF:
                                                                  2,080 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    800 mL
   Urine:
                                                                  2,535 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     66 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 795 (756 - 1,006) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.41/60/125/36/11
   Ve: 7.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Eyes / Conjunctiva: pupils pinpoint
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   prolonged expiratory phase
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   139 K/uL
   82 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.5 mEq/L
   37 mg/dL
   99 mEq/L
   140 mEq/L
   31.0 %
   3.7 K/uL
        [image002.jpg]
                            [**2124-1-2**]  02:33 AM
                            [**2124-1-2**]  07:24 AM
                            [**2124-1-2**]  05:07 PM
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
                            [**2124-1-3**]  12:48 PM
                            [**2124-1-3**]  05:14 PM
                            [**2124-1-4**]  03:06 AM
                            [**2124-1-4**]  03:19 AM
                            [**2124-1-4**]  03:25 AM
   WBC
   3.3
   3.7
   Hct
   31.5
   32.1
   35
   31.0
   Plt
   140
   139
   Cr
   1.0
   0.8
   TCO2
   41
   38
   40
   36
   39
   Glucose
   82
   Other labs: PT / PTT / INR:13.7/24.4/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Microbiology: BAL negative
   Assessment and Plan
   48 year old man with history as above presents with ACS, AECOPD and
   possible new VAP. No active bronchospasm on examthis morning, nornam
   hemodynamics, RIBI 18 but MV only [**4-24**]
   on versed drip. Will DC sedation today with hopes for extubation later
   today. Continue Vanc/Zosyn for VAP - all cultures negative to date. On
   prednisone taper with standing MDI's and inhaled
   steroid. Titrating BB,ACE for ischemic cardiomyopathy and will aim TBB
   negative 500 to 1 L. Sig. trachobronchomacia noted on bronch [**1-2**] so
   may benefit from IP consult. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: tube feeds on hold for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   20 Gauge - [**2123-12-28**] 08:00 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-05 07:56:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Mental status remained depressed and did not attempt extubation
   Started propofol for sedation to attempt extubation tomorrow
   Allergies:
   Amitriptyline dyskensis ?;
   Benzodiazepines agitation;
   Morphine "diff breathing
   Valium (Oral)  paradoxical effect
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Vancomycin - [**2124-1-4**] 08:54 PM
   Piperacillin - [**2124-1-5**] 01:45 AM
   Ciprofloxacin - [**2124-1-5**] 05:25 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-5**] 12:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-1-5**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.7
   HR: 71 (60 - 89) bpm
   BP: 119/74(87) {94/61(72) - 125/85(188)} mmHg
   RR: 13 (8 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,790 mL
                                                                    439 mL
   PO:
             TF:
                                                                     58 mL
   IVF:
                                                                  1,732 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                    705 mL
   Urine:
                                                                  2,080 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -290 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (572 - 900) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.45/48/152/34/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, pupils pinpoint
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: voice, Movement: purposeful, Sedated, Tone:
   normal
   Labs / Radiology
   136 K/uL
   10.9 g/dL
   85 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.5 mEq/L
   29 mg/dL
   98 mEq/L
   137 mEq/L
   30.8 %
   4.0 K/uL
        [image002.jpg]
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
                            [**2124-1-3**]  12:48 PM
                            [**2124-1-3**]  05:14 PM
                            [**2124-1-4**]  03:06 AM
                            [**2124-1-4**]  03:19 AM
                            [**2124-1-4**]  03:25 AM
                            [**2124-1-4**]  06:05 PM
                            [**2124-1-5**]  02:03 AM
                            [**2124-1-5**]  06:11 AM
   WBC
   3.3
   3.7
   4.0
   Hct
   32.1
   35
   31.0
   30.8
   Plt
   140
   139
   136
   Cr
   1.0
   0.8
   0.7
   TCO2
   40
   36
   39
   35
   34
   Glucose
   82
   85
   Other labs: PT / PTT / INR:13.6/26.9/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   CXR: emphasematous changes, no pleural effusions, fluid in right
   fissure
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   consistent with this diagnosis.  Converted solumedrol to prednisone
   [**1-1**].  Presumptive diagnosis of ventilator associated pneumonia after
   developed infiltrate, increased secretions
 s/p BAL [**1-2**].  Do not
   feel congestive heart failure contributing per CT.
   - Diuresis negative 1-2 liters
   - Continue prednisone; tapering down
 3 days 40 mg, then to 20 x3
   days, 10 x3 days
 start 20mg [**1-5**]
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - PEEP weaned, weaning sedation to attempt extubation
   - Treated for 10 day course with broad spectum antibiotic :vancomycin,
   zosyn, ciprofloxacin
 now all stopped
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all negative
   or NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) for agitation on ventilator to decrease requirements of
   fentanyl/versed; consider reducing to reduce sedation
   # Fevers: Afebrile. Fever to 102 prior to presentation, earlier
   fevers.  Initially attributed to acute coronary syndrome, then VAP.  CT
   shows bilateral consolidations, likely atelectasis, but treating for
   infection given immunocompromised status.
   - Continue broad spectrum antibiotics with vancomycin, zosyn, cipro
   - BAL  and prior mini-BAL all unrevealing
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Relative hypotension: Believed secondary to sedation and high PEEP.
   Weaning PEEP has improved this.
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix
   -  Restart metoprolol, captopril
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Cardiology following; appreciate
   - Goal I/O still even for now
   - Restart metoprolol, captopril
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Holding steady currently. Chronic anemia
   likely related to his advanced HIV (marrow suppression and/or
   medication effect).
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - Monitor
   # Acute on chronic renal failure: At baseline.
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q6H (higher than home equivalent of pain
   medication) to decrease requirements of fentanyl/versed; may consider
   reducing this if oversedated
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition: hold tube feeds for extubation
   Glycemic Control:  Comments: insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Assessment and Plan:
   Under Peripheral Neuropathy
   - methadone held given planned extubation, now plan to restart
   methadone at 12 mg iv q12hr to treat pain
   ------ Protected Section Addendum Entered By:[**Name (NI) 3087**] [**Last Name (NamePattern1) 5140**], MD
   on:[**2124-1-5**] 13:33 ------

2124-01-05 12:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, ACS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 48 year old man with
   HIV, low CD4 on HAART, who presented with respiratory failure [**2-20**] ACS
   and AECOPD. On minimal vent support but with mental
   status slow to recover from sedation.
   24 Hour Events:
   Started on propofol overnight, now off sedation.
   Decreased O2 sat (89-90) on decrease of PEEP from 8 to 5.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-1-2**] 02:45 PM
   Acyclovir - [**2124-1-3**] 12:04 AM
   Ciprofloxacin - [**2124-1-5**] 05:25 AM
   Vancomycin - [**2124-1-5**] 09:04 AM
   Piperacillin - [**2124-1-5**] 09:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-5**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-5**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 76 (60 - 89) bpm
   BP: 114/76(88) {94/61(72) - 133/85(188)} mmHg
   RR: 13 (8 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,790 mL
                                                                  1,024 mL
   PO:
             TF:
                                                                     58 mL
   IVF:
                                                                  1,732 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                  1,230 mL
   Urine:
                                                                  2,080 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -290 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 612 (572 - 685) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.45/48/152/34/8
   Ve: 5.8 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases), No dramatic
   wheezes today
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   136 K/uL
   85 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.5 mEq/L
   29 mg/dL
   98 mEq/L
   137 mEq/L
   30.8 %
   4.0 K/uL
        [image002.jpg]
                            [**2124-1-3**]  03:58 AM
                            [**2124-1-3**]  04:21 AM
                            [**2124-1-3**]  12:48 PM
                            [**2124-1-3**]  05:14 PM
                            [**2124-1-4**]  03:06 AM
                            [**2124-1-4**]  03:19 AM
                            [**2124-1-4**]  03:25 AM
                            [**2124-1-4**]  06:05 PM
                            [**2124-1-5**]  02:03 AM
                            [**2124-1-5**]  06:11 AM
   WBC
   3.3
   3.7
   4.0
   Hct
   32.1
   35
   31.0
   30.8
   Plt
   140
   139
   136
   Cr
   1.0
   0.8
   0.7
   TCO2
   40
   36
   39
   35
   34
   Glucose
   82
   85
   Other labs: PT / PTT / INR:13.6/26.9/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: Fluid in fissure on right. Some hazziness of the pulmonary
   vasculature
   Assessment and Plan
   48 year old man with history as above. No frank bronchospasm and
   weaning steroids. Did not tolerate mild decrease in PEEP today whihc is
   concerning for
   LV overload. Also treating empiricaly for possible VAP but CXR is
   without widespread infiltrate. RISBI < 105 this am so would favor
   agressive diuresis and move towards extubation.
   TBB -1 to 2 L. Continue to avoid sedation. Has completed > 8 days of
   antibiotics so will DC today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds on hold for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-06 07:20:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Unable to extubate at 5/5 , desaturated to 7.42/49/57, and with copious
   thin secretion. O2 sat stabilized after several recruitment maneuvers
   and PEEP increase to 10.  O/N patient continued to desat to mid -80s,
   and FiO2 increased to 50%
   Patient diuresed neg 1.8 liters, and another - 600 ml since MN
   Stopped antibiotics as completed 10 day course
   Prednisone weaned 20mg
   Restarted methadone for pain at 20mg q12hr
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-1-5**] 05:25 AM
   Vancomycin - [**2124-1-5**] 09:04 AM
   Piperacillin - [**2124-1-5**] 09:04 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-5**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2124-1-6**] 12:04 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-1-6**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 84 (68 - 95) bpm
   BP: 102/69(79) {86/59(67) - 133/83(97)} mmHg
   RR: 18 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,352 mL
                                                                    248 mL
   PO:
             TF:
   IVF:
                                                                    992 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                    850 mL
   Urine:
                                                                  2,555 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,853 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 721 (547 - 750) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.46/40/95
   Ve: 11.6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Non -purposeful, Sedated, Tone: Normal
   Labs / Radiology
   149 K/uL
   13.0 g/dL
   74 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.5 mEq/L
   30 mg/dL
   97 mEq/L
   135 mEq/L
   35.9 %
   5.6 K/uL
        [image002.jpg]
                            [**2124-1-4**]  03:06 AM
                            [**2124-1-4**]  03:19 AM
                            [**2124-1-4**]  03:25 AM
                            [**2124-1-4**]  06:05 PM
                            [**2124-1-5**]  02:03 AM
                            [**2124-1-5**]  06:11 AM
                            [**2124-1-5**]  01:39 PM
                            [**2124-1-5**]  06:04 PM
                            [**2124-1-6**]  03:37 AM
                            [**2124-1-6**]  05:07 AM
   WBC
   3.7
   4.0
   5.6
   Hct
   31.0
   30.8
   35.9
   Plt
   139
   136
   149
   Cr
   0.8
   0.7
   0.8
   TCO2
   39
   35
   34
   33
   34
   29
   Glucose
   85
   74
   Other labs: PT / PTT / INR:13.6/26.9/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   consistent with this diagnosis.  Converted solumedrol to prednisone
   [**1-1**].  Presumptive diagnosis of ventilator associated pneumonia after
   developed infiltrate, increased secretions
 s/p BAL [**1-2**].  Do not
   feel congestive heart failure contributing per CT.  Diuresed negative
   today, pulmonary status improved by CXR and patient now tolerating [**5-24**]
   trial
   - RISBI, SBT, plan to extubate in pm
   - I/O
 500 to 1 Liter
   - Continue prednisone; tapering down
 3 days 40 mg, then to 20 x3
   days, 10 x3 days
 started 20mg [**1-5**]
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Treated for 10 day course with broad spectum antibiotic :vancomycin,
   zosyn, ciprofloxacin
 now all stopped
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all negative
   or NGTD
   - Goal I/O even
   - Methadone 20 mg IV Q12H
   # Fevers: Afebrile. Fever to 102 prior to presentation, earlier
   fevers.  Initially attributed to acute coronary syndrome, then VAP.  CT
   shows bilateral consolidations, likely atelectasis, but treating for
   infection given immunocompromised status.
   - Continue broad spectrum antibiotics with vancomycin, zosyn, cipro
   - BAL  and prior mini-BAL all unrevealing
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Relative hypotension: Believed secondary to sedation and high PEEP.
   Weaning PEEP has improved this.
   - Stop sedation today
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol, captopril
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Cardiology following; appreciate
   - Goal I/O
 500 to 1L
   - On metoprolol, captopril
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Holding steady currently. Chronic anemia
   likely related to his advanced HIV (marrow suppression and/or
   medication effect).
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - Monitor
   # Acute on chronic renal failure: At baseline.
   - Goal even today
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV 12HR
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition: tube feeds
 off for extubation
   Glycemic Control: insuling sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RISBI, daily wake up
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition:ICU

2124-01-06 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 48 year old man with
   PMH HIV, low CD4 on HAART, CAD with ischemic cardiomyopathy EF 20%
   presented with ACS and AECOPD. Remains intubated [**2-20**] baseline pulmonary
   disease and likely element of volume overload.
   24 Hour Events:
   desaturation on 5 of PEEP.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-1-5**] 05:25 AM
   Vancomycin - [**2124-1-5**] 09:04 AM
   Piperacillin - [**2124-1-5**] 09:04 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-5**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2124-1-6**] 08:26 AM
   Other medications:
   Flowsheet Data as of  [**2124-1-6**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 78 (68 - 95) bpm
   BP: 92/58(68) {86/58(67) - 123/83(95)} mmHg
   RR: 18 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,352 mL
                                                                    429 mL
   PO:
             TF:
   IVF:
                                                                    992 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,040 mL
   Urine:
                                                                  2,555 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,853 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 650 (547 - 750) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.46/40/95.[**Numeric Identifier 607**]/29/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Hyperresonant: ), (Breath Sounds:
   Clear : ), prolonged expiration but overall breathing appears more
   synchronized with vent, much less labored. Less wheezing.
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   149 K/uL
   74 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.5 mEq/L
   30 mg/dL
   97 mEq/L
   135 mEq/L
   35.9 %
   5.6 K/uL
        [image002.jpg]
                            [**2124-1-4**]  03:06 AM
                            [**2124-1-4**]  03:19 AM
                            [**2124-1-4**]  03:25 AM
                            [**2124-1-4**]  06:05 PM
                            [**2124-1-5**]  02:03 AM
                            [**2124-1-5**]  06:11 AM
                            [**2124-1-5**]  01:39 PM
                            [**2124-1-5**]  06:04 PM
                            [**2124-1-6**]  03:37 AM
                            [**2124-1-6**]  05:07 AM
   WBC
   3.7
   4.0
   5.6
   Hct
   31.0
   30.8
   35.9
   Plt
   139
   136
   149
   Cr
   0.8
   0.7
   0.8
   TCO2
   39
   35
   34
   33
   34
   29
   Glucose
   85
   74
   Other labs: PT / PTT / INR:13.6/26.9/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   48 year old man with PMH as above presents with respiratory failure [**2-20**]
   ACS and AECOPD. S/P diuresis yesterday and now tolerating decreased
   PEEP.
   Check RSBI and SBT today with aim to extubate. Propofol is now off.
   Tolerating CAD regimen of ASA/BB/ACE. No statin [**2-20**] interaction with
   HAART. Additional 40mg IV lasix now for TBB -500 to 1L. Further plans
   as per resident note.
   Update:
   Bronchoscopy done for high volume secretions, which was unremarkable
   purulent sputum in lower airways at all. Mucosa erythematous, inflamed
   but not edematous and no endobronchial lesions.
   Failed decrease in FiO2 from .5
 0.4. O2sat dropped from 95
 88%. PEEP
   was increased back to 10.
   High A-a gradient with P/F ratio 166. No significant infiltrate on CXR,
   and actually appears less volume overloaded, corresponding with his
   effective diuresis. He has multifactorial resp failure with clinically
   severe COPD, severe bronchomalacia, recent VAP, but those are not
   really enough to explain his high oxygen requirement. CT to r/o
   interstitial process. Will also obtain CT-A to r/o PE as we [**Male First Name (un) **]
t have
   a great explanation for his gas exchange defect.
   ICU Care
   Nutrition:
   Comments: NPO pending extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-01-07 07:53:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 PAN CULTURE - At [**2124-1-7**] 04:28 AM
   - Did not extubate due to high A-a gradient
   - BAL with GPC on gram stain
   - CTA -> unclear right subsegmental area, [**Name (NI) 1277**] infiiltrate
 this was
   done s/p BAL
   - Hypotensive to SBP 80s overnight -> NS 1,000 ml
   - Started vancomycin
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-1-5**] 05:25 AM
   Piperacillin - [**2124-1-5**] 09:04 AM
   Acyclovir - [**2124-1-7**] 12:00 AM
   Vancomycin - [**2124-1-7**] 06:42 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-7**] 12:00 AM
   Methadone Hydrochloride - [**2124-1-7**] 05:03 AM
   Other medications:
   Flowsheet Data as of  [**2124-1-7**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 79 (78 - 101) bpm
   BP: 92/62(71) {85/56(65) - 155/92(248)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    914 mL
                                                                  1,484 mL
   PO:
             TF:
             135 mL
   IVF:
                                                                    384 mL
                                                                    839 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    955 mL
   Urine:
                                                                  2,150 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,636 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (500 - 661) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/44/87
   Ve: 10.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : esp in upper airway and lung fields)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: voice, Movement: Not assessed, Sedated, Tone:
   Normal
   Labs / Radiology
   140 K/uL
   12.6 g/dL
   74 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.3 mEq/L
   29 mg/dL
   99 mEq/L
   134 mEq/L
   34.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2124-1-5**]  02:03 AM
                            [**2124-1-5**]  06:11 AM
                            [**2124-1-5**]  01:39 PM
                            [**2124-1-5**]  06:04 PM
                            [**2124-1-6**]  03:37 AM
                            [**2124-1-6**]  05:07 AM
                            [**2124-1-6**]  12:16 PM
                            [**2124-1-6**]  07:38 PM
                            [**2124-1-7**]  03:27 AM
                            [**2124-1-7**]  03:46 AM
   WBC
   4.0
   5.6
   7.8
   Hct
   30.8
   35.9
   34.9
   Plt
   136
   149
   140
   Cr
   0.7
   0.8
   0.8
   TCO2
   34
   33
   34
   29
   28
   28
   30
   Glucose
   85
   74
   74
   Other labs: PT / PTT / INR:13.5/26.5/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   consistent with this diagnosis.  Converted solumedrol to prednisone
   [**1-1**] and on prednisone wean.  Presumptive diagnosis of ventilator
   associated pneumonia after developed infiltrate, increased secretions
   s/p BAL [**1-2**], completed course vanc/cipro/zosyn.  Diuresed [**2034-1-2**]
   given evidence of increased volume by CXR and secretions, but did not
   improve oxygenation. No extubatable due to high A-a gradient.
   - F/U CT chest to eval A-a gradient re: ? PE and [**Month/Day/Year 1277**] infiltrate likely
   due to BAL, but given GPC on gram stain from BAL will continue
   VANCOMYCIN
   - Day 11 of Intubation
   - I/O
 even to neg 500 ml
   - Continue prednisone; tapering down
 3 days 40 mg, then to 20 x3
   days, 10 x3 days
 started 10 mg [**12-9**]
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Treated for 10 day course with broad spectum antibiotic :vancomycin,
   zosyn, ciprofloxacin
 now all stopped
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all negative
   or NGTD
   - Methadone 20 mg IV Q12H
   # Fevers: Afebrile for many days, one fever to 101 likely in setting of
   BAL. Also started VANC for GPCs on BAL.. Fever to 102 prior to
   presentation, earlier fevers.  Initially attributed to acute coronary
   syndrome, then VAP.  CT shows bilateral consolidations, likely
   atelectasis, but treating for infection given immunocompromised status.
   - New BAL with GPCs, On VANC, pending speciation
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Relative hypotension: Believed secondary to sedation and high PEEP.
   PEEP from 18 to 10. On lowest sedation possible. Tolerating his needed
   cardiac meds.
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol, captopril
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Cardiology following; appreciate
   - Goal I/O
 even to neg 500 ml
   - On metoprolol, captopril
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Holding steady currently. Chronic anemia
   likely related to his advanced HIV (marrow suppression and/or
   medication effect).
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - Monitor
   # Acute on chronic renal failure: At baseline.
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV 12HR
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-7**] 12:51 AM 25 mL/hour
   Glycemic Control: insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds , need to
   discuss prognosis with partner given continue oxygenation issues are
   preventing extubation and patient with other serious medical conditions
   Code status: Full code
   Disposition:ICU

2124-01-07 11:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 year old man with HIV, low CD4 on HAART, presented with respiratory
   failure [**2-20**] AECOPD and ACS. Now with persistent A-a gradient and PEEP
   requirement.
   24 Hour Events:
 BRONCHOSCOPY - At [**2124-1-6**] 05:00 PM
   lungs clear. sputum culture sent.
   I reviewed Chest CT: left lower lobe infiltrate and ground glass,
   though this was hours post-bronch and non-occlusive PE in RLL.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-1-5**] 05:25 AM
   Piperacillin - [**2124-1-5**] 09:04 AM
   Vancomycin - [**2124-1-7**] 06:42 AM
   Acyclovir - [**2124-1-7**] 08:54 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-7**] 05:03 AM
   Heparin Sodium (Prophylaxis) - [**2124-1-7**] 08:54 AM
   Other medications:
   Flowsheet Data as of  [**2124-1-7**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 81 (79 - 101) bpm
   BP: 93/60(70) {85/56(65) - 155/92(248)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    914 mL
                                                                  1,851 mL
   PO:
             TF:
             218 mL
   IVF:
                                                                    384 mL
                                                                    893 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,095 mL
   Urine:
                                                                  2,150 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,636 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (500 - 661) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.43/44/86.[**Numeric Identifier 96**]/27/3
   Ve: 9.8 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Hyperresonant: ), (Breath Sounds:
   Diminished: left base), prolonged expiration. No audible wheezes now.
   Skin:  warm, no new rashes
   Neurologic: sedated, unresponsive
   Labs / Radiology
   12.6 g/dL
   140 K/uL
   74 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.3 mEq/L
   29 mg/dL
   99 mEq/L
   134 mEq/L
   34.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2124-1-5**]  02:03 AM
                            [**2124-1-5**]  06:11 AM
                            [**2124-1-5**]  01:39 PM
                            [**2124-1-5**]  06:04 PM
                            [**2124-1-6**]  03:37 AM
                            [**2124-1-6**]  05:07 AM
                            [**2124-1-6**]  12:16 PM
                            [**2124-1-6**]  07:38 PM
                            [**2124-1-7**]  03:27 AM
                            [**2124-1-7**]  03:46 AM
   WBC
   4.0
   5.6
   7.8
   Hct
   30.8
   35.9
   34.9
   Plt
   136
   149
   140
   Cr
   0.7
   0.8
   0.8
   TCO2
   34
   33
   34
   29
   28
   28
   30
   Glucose
   85
   74
   74
   Other labs: PT / PTT / INR:13.5/26.5/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   47 year old man with multifactorial respiratory failure:
          acute exacerbation COPD (with background severe emphysema)
          ACS, presented with STEMI and now EF 20%
          possible LLL VAP- on Vanc for GPC seen on GS from BAL
   (though infiltrate and transient fever may be attributable to BAL will
   treat and reassess after cx data)
          RLL PE -awaiting final read of CT- though this is a small
   thrombus I think even a small lesion could cause enough endothelial
   dysfunction and V/Q mismatch to be a significant factor considering his
   underlying severely damaged parenchyma
   Aim 500c negative today. Still without adequate oxygenation for
   extubation. Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-7**] 12:51 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will speak with partner today
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2124-01-08 08:06:00 Physician Resident Progress Note
Chief Complaint: MI, respiratory failure
   24 Hour Events:
   CT read as having two sub-sub-segmental filling defects c/w small PEs;
   started heparin without bolus
   Hct drop this AM; stool greenish; will guaiac
   goal was to run even to -500; fell behind on this and ran 1L+; gave IV
   lasix this AM to attempt to try to make up lost ground
   Resident ([**First Name8 (NamePattern2) 318**] [**Last Name (NamePattern1) 91**]) had lengthy phone conversation [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1751**] [**Last Name (NamePattern1) 6958**]
   (partner) about course so far and future prognosis; explained that if
   he is not able to wean he will either need to get trach and expect long
   term period in which he would be very debilitated, or contemplate the
   prospect of not getting trach and potentially withdrawing care;
   explained this is not for immediate decision
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin - [**2124-1-5**] 09:04 AM
   Acyclovir - [**2124-1-8**] 12:00 AM
   Vancomycin - [**2124-1-8**] 08:00 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-7**] 08:54 AM
   Furosemide (Lasix) - [**2124-1-8**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2124-1-8**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 95 (77 - 98) bpm
   BP: 113/72(84) {93/60(70) - 124/82(94)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,911 mL
                                                                    901 mL
   PO:
             TF:
                                                                    692 mL
                                                                    361 mL
   IVF:
                                                                  1,400 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                  1,165 mL
   Urine:
                                                                  1,355 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,156 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 753 (456 - 753) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.37/50/113/26/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds in
   vented exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm; cool lower extremities with +pulses
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   11.3 g/dL
   99 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   31 mg/dL
   101 mEq/L
   136 mEq/L
   30.5 %
   4.8 K/uL
        [image002.jpg]
                            [**2124-1-5**]  06:04 PM
                            [**2124-1-6**]  03:37 AM
                            [**2124-1-6**]  05:07 AM
                            [**2124-1-6**]  12:16 PM
                            [**2124-1-6**]  07:38 PM
                            [**2124-1-7**]  03:27 AM
                            [**2124-1-7**]  03:46 AM
                            [**2124-1-8**]  01:06 AM
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
   WBC
   5.6
   7.8
   4.8
   Hct
   35.9
   34.9
   30.5
   Plt
   149
   140
   142
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   34
   29
   28
   28
   30
   30
   Glucose
   74
   74
   99
   99
   Other labs: PT / PTT / INR:13.5/85.4/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   consistent with this diagnosis.  Converted solumedrol to prednisone
   [**1-1**] and on prednisone wean.  Presumptive diagnosis of ventilator
   associated pneumonia after developed infiltrate, increased secretions
   s/p BAL [**1-2**], completed course vanc/cipro/zosyn.  Diuresed [**2034-1-2**]
   given evidence of increased volume by CXR and secretions, but did not
   improve oxygenation. No extubatable due to high A-a gradient.
   - F/U CT chest to eval A-a gradient re: ? PE and LLL infiltrate likely
   due to BAL, but given GPC on gram stain from BAL will continue
   VANCOMYCIN
   - Day 11 of Intubation
   - I/O
 even to neg 500 ml
   - Continue prednisone; tapering down
 3 days 40 mg, then to 20 x3
   days, 10 x3 days
 started 10 mg [**12-9**]
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - Treated for 10 day course with broad spectum antibiotic :vancomycin,
   zosyn, ciprofloxacin
 now all stopped
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all negative
   or NGTD
   - Methadone 20 mg IV Q12H
   # Fevers: Afebrile for many days, one fever to 101 likely in setting of
   BAL. Also started VANC for GPCs on BAL.. Fever to 102 prior to
   presentation, earlier fevers.  Initially attributed to acute coronary
   syndrome, then VAP.  CT shows bilateral consolidations, likely
   atelectasis, but treating for infection given immunocompromised status.
   - New BAL with GPCs, On VANC, pending speciation
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Relative hypotension: Believed secondary to sedation and high PEEP.
   PEEP from 18 to 10. On lowest sedation possible. Tolerating his needed
   cardiac meds.
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol, captopril
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Cardiology following; appreciate
   - Goal I/O
 even to neg 500 ml
   - On metoprolol, captopril
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Holding steady currently. Chronic anemia
   likely related to his advanced HIV (marrow suppression and/or
   medication effect).
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - Monitor
   # Acute on chronic renal failure: At baseline.
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV 12HR
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-7**] 09:23 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: lengthy discussion w pt's
   partner as described above
   Code status: Full code
   Disposition:

2124-01-08 10:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 year old man with HIV, low CD4 on HAART admitted with respiratory
   failure [**2-20**] ACS and AECOPD. New diagnosis of small sub-segmental PE,
   now on heparin. Please see previous notes for details.
   24 Hour Events:
   CTA with subsegmental PE - started on heparin
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Acyclovir - [**2124-1-8**] 12:00 AM
   Vancomycin - [**2124-1-8**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-1-8**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-8**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 68 (68 - 98) bpm
   BP: 93/58(69) {93/58(69) - 124/82(94)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,911 mL
                                                                  1,048 mL
   PO:
             TF:
                                                                    692 mL
                                                                    451 mL
   IVF:
                                                                  1,400 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                  1,225 mL
   Urine:
                                                                  1,355 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,156 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 660 (456 - 753) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.37/50/113/26/1
   Ve: 10.6 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   142 K/uL
   99 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   31 mg/dL
   101 mEq/L
   136 mEq/L
   30.5 %
   4.8 K/uL
        [image002.jpg]
                            [**2124-1-5**]  06:04 PM
                            [**2124-1-6**]  03:37 AM
                            [**2124-1-6**]  05:07 AM
                            [**2124-1-6**]  12:16 PM
                            [**2124-1-6**]  07:38 PM
                            [**2124-1-7**]  03:27 AM
                            [**2124-1-7**]  03:46 AM
                            [**2124-1-8**]  01:06 AM
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
   WBC
   5.6
   7.8
   4.8
   Hct
   35.9
   34.9
   30.5
   Plt
   149
   140
   142
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   34
   29
   28
   28
   30
   30
   Glucose
   74
   74
   99
   99
   Other labs: PT / PTT / INR:13.5/85.4/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:79.1 %, Lymph:14.7 %, Mono:5.9 %, Eos:0.3 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   47 year old man with hypoxemic and hypercapnic respiratory failur ein
   the settin gof ACS, AECOPD and now new sub-segmental PE. On prednisone
   taper
   and no clinical evidence of active bronchospasm. New EF of ~20%
   post-ACS , on ASA/BB/ACE, no statin [**2-20**] interaction with HAART meds.
   Aim TBB -1L.
   Therapeuticly anticoagulated on heparin for PE, + low EF with extensive
   wall motion abnormalities. Improved oxygenation today, will attempt to
   decrease
   PEEP and move toward extubation once diuresed. Further plans as per
   resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-7**] 09:23 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-09 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   HCT remained stable
   stopped vancomycin
   sputum cx rare GNRs from [**1-6**] -- did not start Abx, [**1-6**] BAL only
   flora
   I/O negative
   Spoke with partner, [**Name (NI) 1751**], re: prognosis
   Copious secretions
   Increased PEEP to 8
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Acyclovir - [**2124-1-8**] 12:00 AM
   Vancomycin - [**2124-1-8**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2124-1-8**] 03:00 PM
   Fentanyl - [**2124-1-8**] 03:00 PM
   Furosemide (Lasix) - [**2124-1-8**] 09:00 PM
   Methadone Hydrochloride - [**2124-1-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-9**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 95 (68 - 96) bpm
   BP: 92/58(69) {79/48(56) - 137/81(97)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,680 mL
                                                                    862 mL
   PO:
             TF:
                                                                  1,472 mL
                                                                    574 mL
   IVF:
                                                                    918 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    435 mL
   Urine:
                                                                  3,090 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -810 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 653 (368 - 918) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.44/45/68/28/5
   Ve: 9.2 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds in
   vented exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm; cool lower extremities with +pulses
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   11.3 g/dL
   116 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.1 mEq/L
   31 mg/dL
   100 mEq/L
   137 mEq/L
   30.6 %
   5.5 K/uL
        [image002.jpg]
                            [**2124-1-6**]  12:16 PM
                            [**2124-1-6**]  07:38 PM
                            [**2124-1-7**]  03:27 AM
                            [**2124-1-7**]  03:46 AM
                            [**2124-1-8**]  01:06 AM
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
                            [**2124-1-8**]  02:38 PM
                            [**2124-1-9**]  04:51 AM
                            [**2124-1-9**]  05:00 AM
   WBC
   7.8
   4.8
   5.5
   Hct
   34.9
   30.5
   30.2
   30.6
   Plt
   140
   142
   173
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   28
   28
   30
   30
   32
   Glucose
   74
   99
   99
   116
   Other labs: PT / PTT / INR:13.5/65.3/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.2 %, Lymph:9.2 %, Mono:4.4 %, Eos:2.1 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   47 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Severe COPD on imaging and ventilator mechanics
   continue to be consistent with obstructive disease.  Emerging pneumonia
   Converted solumedrol to prednisone [**1-1**] and on prednisone wean.
   Presumptive diagnosis of ventilator associated pneumonia after
   developed infiltrate, increased secretions
 s/p BAL [**1-2**], completed
   course vanc/cipro/zosyn.  Diuresed [**2034-1-2**] given evidence of increased
   volume by CXR and secretions, but did not improve oxygenation. Not yet
   extubatable due to high A-a gradient. Failed to meet diuresis goal
   overnight; should get more fluid off today to try to gain ground on
   maximizing respiratory capacity. PE seen on CT; relatively small but
   with pt with lack of pulmonary and cardiac reserve we are treating this
   aggressively with heparin
   Likely multifactorial at this point with new PE and potential new
   infection given increase in secretions overnight. Will repeat mini-bal
   and start vanc/zosysn x 8 days.
   Repeat TTE to assess right sided pressures in light of the new PE. Aim
   TBB -500 to 1 L today. Remain reluctant to extubate given ongoing poor
   oxygenation.
   - continue heparin, see issue re Hct drop below
   - unclear whether he has pneumonia; [**1-6**] showed gram positives on gram
   stain, some GNRs on culture; not clear evidence of pneumonia currently;
   low threshold to restart abx
   - Day 12 of Intubation
   - I/O
 even to neg 500 ml
   - Continue prednisone; tapering down
 3 days 40 mg, 20 x3 days, 10 x3
   days
 started 10 mg [**12-9**]
   - Continue combivent Q4H with albuterol Q1-2H PRN
   - Continue beclomethasone
   - BAL [**1-2**] for: Bronchial culture & gram stain; Legionella culture;
   Rapid Respiratory Viral Screen & Culture; Pneumocystis smear; CMV
   culture; Acid fast (TB) culture & smear; Fungal culture
 all negative
   or NGTD
   # Fevers: Afebrile for many days, one fever to 101 likely in setting of
   BAL. Also started VANC for GPCs on BAL.. Fever to 102 prior to
   presentation, earlier fevers.  Initially attributed to acute coronary
   syndrome, then VAP.
   - [**7-7**] BAL with GPCs, no speciation; GNRs
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Cardiology following; appreciate -> no intervention at this time,
   stress test when improved
   - Continue aspirin, plavix, metoprolol, captopril
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Goal I/O
 -500ml to 1L out today
   - On metoprolol, captopril
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since. Recent drop in Hct today in setting of
   restarting heparin.
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   - PM Hcts
   - continue heparin for now-
   # Acute on chronic renal failure: At baseline.
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue Bactrim and [**Doctor First Name **] prophylaxis
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV 12HR
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now, but can resume once more
   stable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-9**] 03:04 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-01-09 12:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 year old man with HIV, COPD and CAD who presented with respiratory
   failure in the setting of ACS, and AECOPD, c/b new PE. Please see
   previous noted for details.
   24 Hour Events:
   Peep increased to 8 for low Pao2
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Acyclovir - [**2124-1-8**] 12:00 AM
   Vancomycin - [**2124-1-8**] 08:00 AM
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2124-1-8**] 03:00 PM
   Fentanyl - [**2124-1-8**] 03:00 PM
   Furosemide (Lasix) - [**2124-1-8**] 09:00 PM
   Lansoprazole (Prevacid) - [**2124-1-9**] 08:00 AM
   Methadone Hydrochloride - [**2124-1-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-9**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 75 (73 - 103) bpm
   BP: 86/53(64) {79/48(56) - 137/81(97)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,680 mL
                                                                  1,470 mL
   PO:
             TF:
                                                                  1,472 mL
                                                                    837 mL
   IVF:
                                                                    918 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    535 mL
   Urine:
                                                                  3,090 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -810 mL
                                                                    935 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 767 (368 - 918) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 13 cmH2O
   SpO2: 94%
   ABG: 7.44/45/68/28/5
   Ve: 10.8 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Gen: lying in bed, occ. coughing,
   HEENT: ETT and OGT in place
   CV: tachy RR, nl s1/s2
   Chest: fair air movement, diminsehd at bases, no wheezing today
   Abd: soft NT +BS
   Skin:  warm
   Neurologic: awake following simple commands
   Labs / Radiology
   11.3 g/dL
   173 K/uL
   116 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.1 mEq/L
   31 mg/dL
   100 mEq/L
   137 mEq/L
   30.6 %
   5.5 K/uL
        [image002.jpg]
                            [**2124-1-6**]  12:16 PM
                            [**2124-1-6**]  07:38 PM
                            [**2124-1-7**]  03:27 AM
                            [**2124-1-7**]  03:46 AM
                            [**2124-1-8**]  01:06 AM
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
                            [**2124-1-8**]  02:38 PM
                            [**2124-1-9**]  04:51 AM
                            [**2124-1-9**]  05:00 AM
   WBC
   7.8
   4.8
   5.5
   Hct
   34.9
   30.5
   30.2
   30.6
   Plt
   140
   142
   173
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   28
   28
   30
   30
   32
   Glucose
   74
   99
   99
   116
   Other labs: PT / PTT / INR:13.5/65.3/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.2 %, Lymph:9.2 %, Mono:4.4 %, Eos:2.1 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   CXR: worsening RLL infiltrate
   Assessment and Plan
   47 year old man with hypoxemic and hypercapnic respiratory failure in
   the setting of ACS, AECOPD and now new sub-segmental PE.
   Resp Failure: Have not made sig progress this weekend, yesterday due to
   some brinchspasm but today due to Aa gradient and inability to wean
   PEEP. Likely multifactorial at this point with new PE and potential new
   infection given increase in secretions overnight..
          1.    Increased secretions/RLL infiltrate on CXR: Will repeat
   mini-bal and start vanc/zosysn x 8 days
          2.    For AECOPD- On prednisone and ATC MDIs.
   3.     For CHF- New EF of ~20% post-ACS , on ASA/BB/ACE, no statin [**2-20**]
   interaction with HAART meds. Aim TBB -1L. Repeat TTE to assess right
   sided pressures in light of the new PE.
   4.        For PE Therapeuticly anticoagulated on heparin for PE, + low
   EF with extensive wall motion abnormalities.
    Further plans as per resident note. Reviewed and discussed.
   ICU Care
   Nutrition: on tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-01-10 08:42:00 Physician Resident Progress Note
Chief Complaint: MI, respiratory failure, inability to wean, in setting
   of baseline CAD and apparent COPD
   24 Hour Events:
   aimed to diurese to negative
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Acyclovir - [**2124-1-8**] 12:00 AM
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Vancomycin - [**2124-1-9**] 07:00 PM
   Piperacillin - [**2124-1-10**] 06:13 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Insulin - Regular - [**2124-1-9**] 12:00 PM
   Fentanyl - [**2124-1-9**] 08:13 PM
   Methadone Hydrochloride - [**2124-1-10**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**5-25**] ModeratePain location: does not rate but c/o of pain, affirms
   location = back
   Flowsheet Data as of  [**2124-1-10**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 84 (63 - 88) bpm
   BP: 115/66(82) {82/50(61) - 121/76(91)} mmHg
   RR: 13 (9 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,382 mL
                                                                  1,303 mL
   PO:
             TF:
                                                                  1,822 mL
                                                                    657 mL
   IVF:
                                                                  1,120 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    345 mL
   Urine:
                                                                    985 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,797 mL
                                                                    958 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 923) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.43/47/72/29/5
   Ve: 11 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   10.4 g/dL
   89 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   32 mg/dL
   104 mEq/L
   139 mEq/L
   28.9 %
   3.9 K/uL
        [image002.jpg]
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
                            [**2124-1-8**]  02:38 PM
                            [**2124-1-9**]  04:51 AM
                            [**2124-1-9**]  05:00 AM
                            [**2124-1-9**]  12:24 PM
                            [**2124-1-9**]  03:03 PM
                            [**2124-1-9**]  05:54 PM
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
   WBC
   4.8
   5.5
   3.9
   Hct
   30.5
   30.2
   30.6
   28.6
   28.9
   Plt
   142
   173
   149
   Cr
   0.7
   0.8
   0.8
   0.7
   TCO2
   30
   32
   29
   32
   Glucose
   99
   116
   138
   89
   Other labs: PT / PTT / INR:13.3/59.6/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   48 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Not yet extubatable due to high A-a gradient.
   Severe COPD on imaging and ventilator mechanics consistent with
   obstructive disease.  New small right subsegmental pulmonary emboli of
   unclear chronicity on CTA [**1-6**].  Potential new ventilator associated
   pneumonia given increased secretions overnight.
   - Day 13 of intubation
   - Continue treatment for COPD exacerbation with prednisone, combivent,
   beclomethasone, additional albuterol PRN
 prednisone at 10 mg started
   [**1-8**]
   - Start vancomycin and zosyn for an eight-day course starting [**1-9**]
   - Continue heparin gtt
   - Goal I/O negative 500-1L
   - Repeat TTE to assess right-sided pressures in light of the new
   diagnosis of pulmonary embolus
   # Fevers: Afebrile for many days, one fever to 101 likely in setting of
   BAL.
   - Start vancomycin and zosyn for an eight-day course starting [**1-9**] for
   VAP
   - [**1-6**] BAL
 OP flora
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Seen by Cardiology following -> no intervention at this time, stress
   test when improved
   - Continue aspirin, plavix, metoprolol, captopril
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Goal I/O negative 500-1L
   - On metoprolol, captopril
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Hematocrit remains stable.
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   # Acute on chronic renal failure: Acute renal failure resolved
 now at
   baseline.
   - Renally dose medications
   - Monitor
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue bactrim and azithromycin for PCP and [**Doctor First Name **] prophylaxis,
   respectively
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q8H
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Hold fibrate for now;  resume once more stable
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-10**] 02:47 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-01-10 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 year man with PMH of HIV, low CD4 on HAART, COPD and CAD p/w
   resppiratory failure in the setting of ACS, AECOPD. Please see previous
   notes for details.
   24 Hour Events:
   No events
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Acyclovir - [**2124-1-8**] 12:00 AM
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Piperacillin - [**2124-1-10**] 06:13 AM
   Vancomycin - [**2124-1-10**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Insulin - Regular - [**2124-1-9**] 12:00 PM
   Fentanyl - [**2124-1-9**] 08:13 PM
   Methadone Hydrochloride - [**2124-1-10**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-10**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 77 (63 - 88) bpm
   BP: 104/67(79) {82/50(61) - 121/76(91)} mmHg
   RR: 10 (9 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,382 mL
                                                                  2,371 mL
   PO:
             TF:
                                                                  1,822 mL
                                                                  1,294 mL
   IVF:
                                                                  1,120 mL
                                                                    837 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    445 mL
   Urine:
                                                                    985 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,797 mL
                                                                  1,926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 923) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.43/47/72/29/5
   Ve: 11 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: at b/l bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   149 K/uL
   89 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   32 mg/dL
   104 mEq/L
   139 mEq/L
   28.9 %
   3.9 K/uL
        [image002.jpg]
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
                            [**2124-1-8**]  02:38 PM
                            [**2124-1-9**]  04:51 AM
                            [**2124-1-9**]  05:00 AM
                            [**2124-1-9**]  12:24 PM
                            [**2124-1-9**]  03:03 PM
                            [**2124-1-9**]  05:54 PM
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
   WBC
   4.8
   5.5
   3.9
   Hct
   30.5
   30.2
   30.6
   28.6
   28.9
   Plt
   142
   173
   149
   Cr
   0.7
   0.8
   0.8
   0.7
   TCO2
   30
   32
   29
   32
   Glucose
   99
   116
   138
   89
   Other labs: PT / PTT / INR:13.3/59.6/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I would emphasize
   and add the following points:
   48 year old man with PMH as above now with persistent hypoxemic
   respiratory failure. New PE but now stable on heparin. Also increased
   secretions and possible LLL GG opacities so suspect ongoing hypoxemia
   is secondary to vap. On Vanc/zosyn with cultures pending. Needs
   agressive diuresis today. RSBI 25 and mechanics on the vent are
   excellent.
   Moderate secretions and very low P/F so not quite ready for extubation
   today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-10**] 10:43 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   Addendum: The patient was seen and examined on [**2124-1-10**]. The note was
   completed on the same day but not electronically signed.  [**First Name8 (NamePattern2) 1140**] [**Last Name (NamePattern1) 1135**],
   MD

2124-01-10 15:11:00 Physician Resident Progress Note
Chief Complaint: MI, respiratory failure, inability to wean, in setting
   of baseline CAD and apparent COPD
   24 Hour Events:
   aimed to diurese to negative
   Subjective:
   With head nods, pt appears to affirm pain, affirms location = back.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Acyclovir - [**2124-1-8**] 12:00 AM
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Vancomycin - [**2124-1-9**] 07:00 PM
   Piperacillin - [**2124-1-10**] 06:13 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Insulin - Regular - [**2124-1-9**] 12:00 PM
   Fentanyl - [**2124-1-9**] 08:13 PM
   Methadone Hydrochloride - [**2124-1-10**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**5-25**] ModeratePain location: does not rate but c/o of pain, affirms
   location = back
   Flowsheet Data as of  [**2124-1-10**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 84 (63 - 88) bpm
   BP: 115/66(82) {82/50(61) - 121/76(91)} mmHg
   RR: 13 (9 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,382 mL
                                                                  1,303 mL
   PO:
             TF:
                                                                  1,822 mL
                                                                    657 mL
   IVF:
                                                                  1,120 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    345 mL
   Urine:
                                                                    985 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,797 mL
                                                                    958 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 923) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.43/47/72/29/5
   Ve: 11 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Pulm: clear lungs on limited vented anterior exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abd: distended, non-tender, BS+
   Skin:  No rash or petichiae in limited exam
   Neurologic: Responds to: voice, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   149 K/uL
   10.4 g/dL
   89 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   32 mg/dL
   104 mEq/L
   139 mEq/L
   28.9 %
   3.9 K/uL
        [image002.jpg]
                            [**2124-1-8**]  04:09 AM
                            [**2124-1-8**]  04:27 AM
                            [**2124-1-8**]  02:38 PM
                            [**2124-1-9**]  04:51 AM
                            [**2124-1-9**]  05:00 AM
                            [**2124-1-9**]  12:24 PM
                            [**2124-1-9**]  03:03 PM
                            [**2124-1-9**]  05:54 PM
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
   WBC
   4.8
   5.5
   3.9
   Hct
   30.5
   30.2
   30.6
   28.6
   28.9
   Plt
   142
   173
   149
   Cr
   0.7
   0.8
   0.8
   0.7
   TCO2
   30
   32
   29
   32
   Glucose
   99
   116
   138
   89
   Other labs: PT / PTT / INR:13.3/59.6/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   48 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Not yet extubatable due to high A-a gradient.
   Severe COPD on imaging and ventilator mechanics consistent with
   obstructive disease.  New small right subsegmental pulmonary emboli on
   CTA [**1-6**].  Potential new ventilator associated pneumonia given
   increased secretions, ?new infiltrate.
   - Day 13 of intubation
   - Continue treatment for COPD exacerbation with prednisone, combivent,
   beclomethasone, additional albuterol PRN
 prednisone at 10 mg started
   [**1-8**]
   - Started vancomycin and zosyn for eight-day course starting [**1-9**]
   - Continuing heparin gtt
   - Goal I/O negative -1-2L
   - Repeat TTE to assess right-sided pressures in light of the new
   diagnosis of pulmonary embolus
   # Fevers: Afebrile for many days, though temps up to 100.1 over last 24
   hrs; increased secretions and possible infiltrate (vs increased
   pulmonary edema).
   - Start vancomycin and zosyn for an eight-day course starting [**1-9**] for
   VAP
   - [**1-6**] BAL
 OP flora
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Seen by Cardiology following -> no intervention at this time, stress
   test when improved
   - Continue aspirin, plavix; hold metoprolol and captopril for today
   given that diuresis is the priority
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Goal I/O negative 1-2L
   - Holding metoprolol and captopril for now, diuresing as described
   above, restart soon
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Hematocrit remains stable on heparin
   drip.
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue bactrim and azithromycin for PCP and [**Doctor First Name **] prophylaxis,
   respectively
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV Q8H
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Holding fibrate, could consider restarting soon
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-1-10**] 02:47 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  standard ventilator care
   Comments:
   Communication:  Comments: with partner [**First Name4 (NamePattern1) 1751**] [**Name (NI) 6958**], pt
   [**Name (NI) 66**] status: Full code
   Disposition: ICU for now

2124-01-11 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Goal was to diurese: uptitrated lasix too slowly during day and ended
   up with +balance at midnight;
   more aggressive (up to 12 mg/hr) from midnight
   [**First Name4 (NamePattern1) 1751**] [**Last Name (NamePattern1) 6958**] (partner) came to visit; also, called back to let us know
   that Mr [**Known lastname 7145**] biological family had been informed of his condition
   and expressed feeling that Mr [**Known lastname **] would not want them to be involved
   in his care
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Vancomycin - [**2124-1-10**] 08:40 PM
   Acyclovir - [**2124-1-11**] 01:00 AM
   Piperacillin - [**2124-1-11**] 06:03 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 1,750 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-11**] 02:43 AM
   Heparin Sodium - [**2124-1-11**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-11**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 93 (68 - 97) bpm
   BP: 100/64(76) {93/59(53) - 150/87(106)} mmHg
   RR: 13 (9 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  4,476 mL
                                                                    932 mL
   PO:
             TF:
                                                                  2,211 mL
                                                                    328 mL
   IVF:
                                                                  1,835 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                  2,630 mL
   Urine:
                                                                  1,820 mL
                                                                  2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,656 mL
                                                                 -1,698 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 603 (458 - 1,025) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.45/52/91/33/9
   Ve: 8.4 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   10.6 g/dL
   88 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   25 mg/dL
   94 mEq/L
   135 mEq/L
   29.1 %
   3.9 K/uL
        [image002.jpg]
                            [**2124-1-9**]  05:00 AM
                            [**2124-1-9**]  12:24 PM
                            [**2124-1-9**]  03:03 PM
                            [**2124-1-9**]  05:54 PM
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
                            [**2124-1-10**]  12:52 PM
                            [**2124-1-10**]  07:36 PM
                            [**2124-1-11**]  02:24 AM
                            [**2124-1-11**]  02:43 AM
   WBC
   3.9
   3.9
   Hct
   28.6
   28.9
   29.1
   Plt
   149
   177
   Cr
   0.8
   0.7
   0.6
   0.7
   TCO2
   32
   29
   32
   28
   37
   Glucose
   138
   89
   105
   88
   Other labs: PT / PTT / INR:13.1/58.3/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   48 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Not yet extubatable due to high A-a gradient.
   Severe COPD on imaging and ventilator mechanics consistent with
   obstructive disease.  New small right subsegmental pulmonary emboli on
   CTA [**1-6**].  Potential new ventilator associated pneumonia given
   increased secretions, ?new infiltrate.
   - Continue treatment for COPD exacerbation with prednisone, combivent,
   beclomethasone, additional albuterol PRN
 prednisone at 10 mg started
   [**1-8**]
   - stop vancomycin and zosyn as all cx neg
   - Continuing heparin gtt
   - Goal I/O negative -1-2L
   - Repeat TTE shows severely depressed EF
   # Fevers: Afebrile for many days, though temps up to 100.1 over last 24
   hrs; increased secretions and possible infiltrate (vs increased
   pulmonary edema).
   - stop vancomycin and zosyn as all cx neg
   - [**1-6**] BAL
 OP flora
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Seen by Cardiology following -> no intervention at this time, stress
   test when improved
   - Continue aspirin, plavix; hold metoprolol and captopril for today
   given that diuresis is the priority
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Goal I/O negative 1-2L
   - Holding metoprolol and captopril for now, diuresing as described
   above, restart soon
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Hematocrit remains stable on heparin
   drip.
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue bactrim and azithromycin for PCP and [**Doctor First Name **] prophylaxis,
   respectively
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Holding fibrate, could consider restarting soon
   ICU Care
   Nutrition:
   tubefeeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: lansoprazole
   VAP:  yes
   Comments:
   Communication:  Comments: with pt
s partner [**First Name4 (NamePattern1) 1751**] [**Name (NI) 6958**]. Per him, pt
   would not want them to be involved in his care
   Code status: Full code
   Disposition: pnd extubation

2124-01-11 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 year old man with PMH of HIV, COPD, CAD with severe ischemic
   cardiomyopathy. Please see previos notes for details.
   24 Hour Events:
   TTE yesterday with possible LV aneurysm and questionable LV thrombus.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Piperacillin - [**2124-1-11**] 06:03 AM
   Acyclovir - [**2124-1-11**] 07:54 AM
   Vancomycin - [**2124-1-11**] 08:02 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 1,750 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2124-1-11**] 04:37 AM
   Methadone Hydrochloride - [**2124-1-11**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-11**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 90 (68 - 97) bpm
   BP: 129/90(102) {93/59(53) - 150/90(106)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  4,476 mL
                                                                  1,380 mL
   PO:
             TF:
                                                                  2,211 mL
                                                                    328 mL
   IVF:
                                                                  1,835 mL
                                                                    932 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                  3,150 mL
   Urine:
                                                                  1,820 mL
                                                                  2,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,656 mL
                                                                 -1,770 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 704 (458 - 1,025) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.45/52/91/33/9
   Ve: 9.5 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   10.6 g/dL
   177 K/uL
   88 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   25 mg/dL
   94 mEq/L
   135 mEq/L
   29.1 %
   3.9 K/uL
        [image002.jpg]
                            [**2124-1-9**]  05:00 AM
                            [**2124-1-9**]  12:24 PM
                            [**2124-1-9**]  03:03 PM
                            [**2124-1-9**]  05:54 PM
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
                            [**2124-1-10**]  12:52 PM
                            [**2124-1-10**]  07:36 PM
                            [**2124-1-11**]  02:24 AM
                            [**2124-1-11**]  02:43 AM
   WBC
   3.9
   3.9
   Hct
   28.6
   28.9
   29.1
   Plt
   149
   177
   Cr
   0.8
   0.7
   0.6
   0.7
   TCO2
   32
   29
   32
   28
   37
   Glucose
   138
   89
   105
   88
   Other labs: PT / PTT / INR:13.1/58.3/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   48 year man with HIV, CAD, CHF presented with acute respiratory
   failure, ACS and AECOPD. Now with new diagnosis of sub-segmental PE,
   decreased ejection fraction and possible LV thrombus. On IV heparin. On
   empiric vanc/zosyn for possible VAP but cultures negative. Will try SBT
   but may fail [**2-20**] increased pre-load. In any case, aggresive diuresis
   today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Replete with fiber
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill
   At time of signing, patient was successfully extubated. Will continue
   diuresis as planned.

2124-01-11 10:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Goal was to diurese: uptitrated lasix too slowly during day and ended
   up with +balance at midnight;
   more aggressive (up to 12 mg/hr) from midnight
   [**First Name4 (NamePattern1) 1751**] [**Last Name (NamePattern1) 6958**] (partner) came to visit; also, called back to let us know
   that Mr [**Known lastname 7145**] biological family had been informed of his condition
   and expressed feeling that Mr [**Known lastname **] would not want them to be involved
   in his care
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Azithromycin - [**2124-1-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2124-1-9**] 08:00 AM
   Piperacillin - [**2124-1-11**] 06:03 AM
   Acyclovir - [**2124-1-11**] 07:54 AM
   Vancomycin - [**2124-1-11**] 08:02 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 1,750 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2124-1-11**] 04:37 AM
   Methadone Hydrochloride - [**2124-1-11**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-11**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 90 (68 - 97) bpm
   BP: 129/90(102) {93/59(53) - 150/90(106)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  4,476 mL
                                                                  1,405 mL
   PO:
             TF:
                                                                  2,211 mL
                                                                    328 mL
   IVF:
                                                                  1,835 mL
                                                                    957 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                  3,150 mL
   Urine:
                                                                  1,820 mL
                                                                  2,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,656 mL
                                                                 -1,745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 704 (458 - 1,025) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.45/52/91/33/9
   Ve: 9.5 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   10.6 g/dL
   88 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   25 mg/dL
   94 mEq/L
   135 mEq/L
   29.1 %
   3.9 K/uL
        [image002.jpg]
                            [**2124-1-9**]  05:00 AM
                            [**2124-1-9**]  12:24 PM
                            [**2124-1-9**]  03:03 PM
                            [**2124-1-9**]  05:54 PM
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
                            [**2124-1-10**]  12:52 PM
                            [**2124-1-10**]  07:36 PM
                            [**2124-1-11**]  02:24 AM
                            [**2124-1-11**]  02:43 AM
   WBC
   3.9
   3.9
   Hct
   28.6
   28.9
   29.1
   Plt
   149
   177
   Cr
   0.8
   0.7
   0.6
   0.7
   TCO2
   32
   29
   32
   28
   37
   Glucose
   138
   89
   105
   88
   Other labs: PT / PTT / INR:13.1/58.3/1.1, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   48 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Not yet extubatable due to high A-a gradient.
   Severe COPD on imaging and ventilator mechanics consistent with
   obstructive disease.  New small right subsegmental pulmonary emboli on
   CTA [**1-6**].  Potential new ventilator associated pneumonia given
   increased secretions, ?new infiltrate.
   - Continue treatment for COPD exacerbation with prednisone, combivent,
   beclomethasone, additional albuterol PRN
 prednisone at 10 mg started
   [**1-8**]
   - stop vancomycin and zosyn as all cx neg
   - Continuing heparin gtt
   - Goal I/O negative -1-2L
   - Repeat TTE shows severely depressed EF
   # Fevers: Afebrile for many days, though temps up to 100.1 over last 24
   hrs; increased secretions and possible infiltrate (vs increased
   pulmonary edema).
   - stop vancomycin and zosyn as all cx neg
   - [**1-6**] BAL
 OP flora
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Seen by Cardiology following -> no intervention at this time, stress
   test when improved
   - Continue aspirin, plavix; hold metoprolol and captopril for today
   given that diuresis is the priority
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Goal I/O negative 1-2L
   - Holding metoprolol and captopril for now, diuresing as described
   above, restart soon
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Hematocrit remains stable on heparin
   drip.
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue bactrim and azithromycin for PCP and [**Doctor First Name **] prophylaxis,
   respectively
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Holding fibrate, could consider restarting soon
   ICU Care
   Nutrition:
   tubefeeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pnd extubation

2124-01-12 08:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2124-01-12 09:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Extubated
   -Vanco/zosyn discontinued as culture data has been negative
   -was nearly 2L negative for 24h; still neg after midnight even after
   lasix gtt stopped
   -c/o worsened back pain; received 12.5mcg fentanyl x 2 (doesn't
   tolerate morphine, dilaudid)
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin - [**2124-1-11**] 06:03 AM
   Vancomycin - [**2124-1-11**] 08:02 AM
   Acyclovir - [**2124-1-11**] 04:41 PM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-12**] 02:29 AM
   Fentanyl - [**2124-1-12**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**5-25**] ModeratePain location: back
   Flowsheet Data as of  [**2124-1-12**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 78 (77 - 92) bpm
   BP: 100/60(73) {97/59(72) - 129/90(102)} mmHg
   RR: 15 (10 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,931 mL
                                                                    360 mL
   PO:
                                                                     50 mL
             TF:
                                                                    328 mL
   IVF:
                                                                  1,433 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  3,827 mL
                                                                    747 mL
   Urine:
                                                                  3,427 mL
                                                                    247 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,896 mL
                                                                   -387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,184 (1,184 - 1,184) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 94%
   ABG: 7.47/47/65/33/8
   Ve: 12.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   10.7 g/dL
   81 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.7 mEq/L
   24 mg/dL
   95 mEq/L
   136 mEq/L
   28.6 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
                            [**2124-1-10**]  12:52 PM
                            [**2124-1-10**]  07:36 PM
                            [**2124-1-11**]  02:24 AM
                            [**2124-1-11**]  02:43 AM
                            [**2124-1-11**]  11:24 AM
                            [**2124-1-11**]  02:22 PM
                            [**2124-1-11**]  07:37 PM
                            [**2124-1-12**]  03:44 AM
   WBC
   3.9
   3.9
   4.6
   Hct
   28.9
   29.1
   28.6
   Plt
   149
   177
   160
   Cr
   0.7
   0.6
   0.7
   0.9
   0.8
   TCO2
   32
   28
   37
   36
   35
   Glucose
   89
   105
   88
   78
   81
   Other labs: PT / PTT / INR:14.1/83.6/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   48 year-old man with advanced AIDS, CAD, [**Hospital 827**] transferred from OSH with
   respiratory failure, acute coronary syndrome.
    # Respiratory failure: Not yet extubatable due to high A-a gradient.
   Severe COPD on imaging and ventilator mechanics consistent with
   obstructive disease.  New small right subsegmental pulmonary emboli on
   CTA [**1-6**].  Potential new ventilator associated pneumonia given
   increased secretions, ?new infiltrate.
   - Continue treatment for COPD exacerbation with prednisone, combivent,
   beclomethasone, additional albuterol PRN
 prednisone at 10 mg started
   [**1-8**]
   - stop vancomycin and zosyn as all cx neg
   - Continuing heparin gtt
   - Goal I/O negative -1-2L
   - Repeat TTE shows severely depressed EF
   # Fevers: Afebrile for many days, though temps up to 100.1 over last 24
   hrs; increased secretions and possible infiltrate (vs increased
   pulmonary edema).
   - stop vancomycin and zosyn as all cx neg
   - [**1-6**] BAL
 OP flora
   - Urinalysis, culture
 NGTD
   - Blood cultures
 NGTD
   - Stool cultures
 NGTD
   - Continue to CIS >100.4
   # Acute coronary syndrome: Completed infarct
 likely mid-LAD
   stenosis.  Cardiac enzymes trended down.
   - Seen by Cardiology following -> no intervention at this time, stress
   test when improved
   - Continue aspirin, plavix; hold metoprolol and captopril for today
   given that diuresis is the priority
   - Statin discontinued as outpatient due to interaction with HAART
   regimen
   # Acute-on-chronic diastolic and systolic congestive heart failure: EF
   20-25% down from prior 30%.
   - Goal I/O negative 1-2L
   - Holding metoprolol and captopril for now, diuresing as described
   above, restart soon
   - Cardiology follow-up as an outpatient for question AICD
   # Acute on chronic anemia: Had BRBPR in setting of heparin gtt and
   integrillin gtt, none since.  Hematocrit remains stable on heparin
   drip.
   - Guaiac stools
   - Transfuse < 21 or active bleeding
   # HIV/AIDS: CD4 count 28 with viral load 65.  Known to have virus with
   NNRTI resistance.  On integrase inhibitor as part of his HAART.
   - Continue home HAART regimen
   - Continue fluconazole for fungal prophylaxis
   - Continue bactrim and azithromycin for PCP and [**Doctor First Name **] prophylaxis,
   respectively
   # Peripheral neuropathy/recent T8 compression fracture: Neuropathy
   presumed due to stavudine toxicity, per old notes on the OMR; on a very
   large home narcotic requirement.  Compression fracture noted on
   outpatient chest x-ray
 chronic on imaging here.
   - Methadone 20 mg IV
   - Outpatient evaluation for pathologic fractures
   # Hyperlipidemia: Holding fibrate, could consider restarting soon
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-01-12 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 year old man with PMH HIV, CAD, COPD who presented with hypoxemic
   respiratory failure. Please see previous notes for details.
   24 Hour Events:
   Extubated without incident.
   Allergies:
   Amitriptyline
   dyskensis ?;
   Benzodiazepines
   agitation;
   Morphine
   "diff breathing
   Valium (Oral) (Diazepam)
   paradoxical eff
   Last dose of Antibiotics:
   Piperacillin - [**2124-1-11**] 06:03 AM
   Vancomycin - [**2124-1-11**] 08:02 AM
   Acyclovir - [**2124-1-11**] 04:41 PM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2124-1-12**] 02:29 AM
   Fentanyl - [**2124-1-12**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-12**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 81 (77 - 92) bpm
   BP: 116/75(88) {97/59(72) - 128/80(93)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,931 mL
                                                                    395 mL
   PO:
                                                                     50 mL
             TF:
                                                                    328 mL
   IVF:
                                                                  1,433 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  3,827 mL
                                                                    747 mL
   Urine:
                                                                  3,427 mL
                                                                    247 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,896 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,184 (1,184 - 1,184) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 95%
   ABG: 7.47/47/65/33/8
   Ve: 12.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), JVP 8-9
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   160 K/uL
   81 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.7 mEq/L
   24 mg/dL
   95 mEq/L
   136 mEq/L
   28.6 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-1-10**]  04:06 AM
                            [**2124-1-10**]  04:49 AM
                            [**2124-1-10**]  12:52 PM
                            [**2124-1-10**]  07:36 PM
                            [**2124-1-11**]  02:24 AM
                            [**2124-1-11**]  02:43 AM
                            [**2124-1-11**]  11:24 AM
                            [**2124-1-11**]  02:22 PM
                            [**2124-1-11**]  07:37 PM
                            [**2124-1-12**]  03:44 AM
   WBC
   3.9
   3.9
   4.6
   Hct
   28.9
   29.1
   28.6
   Plt
   149
   177
   160
   Cr
   0.7
   0.6
   0.7
   0.9
   0.8
   TCO2
   32
   28
   37
   36
   35
   Glucose
   89
   105
   88
   78
   81
   Other labs: PT / PTT / INR:14.1/83.6/1.2, CK / CKMB /
   Troponin-T:653/21/2.12, ALT / AST:14/15, Alk Phos / T Bili:42/0.5,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:4.6 %, Eos:2.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:778 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   48 year old man with HIV, CAD, ischemic cardiomyopathy and COPD.
   Admitted with ACS and AECOPD, subsegmental PE. Also has possible LV
   thrombus on echo. On IV heparin.
   Acute respiratory failure - extubated without incident yesterday but
   remains hypoxemic. Continue albuterol/atrovent prn. On empiric
   vanc/zosyn for possible VAP, cultures negative.
   Cardiomyopathy - will reinstitute cardiac regimen today: ACE, BB. Can
   transition to coumadin. Diuresing well.
   Anemia
 stable hct
   Okay to transfer to floor today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: PO diet today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-28**] 04:30 PM
   Arterial Line - [**2123-12-29**] 08:41 AM
   18 Gauge - [**2124-1-6**] 08:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor. Critical care time spent: 35